### PR TITLE
feat: add `BitVec.sdivOverflow` definition and lemmas for overflow in signed and unsigned division

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR contains the theorem proving that signed division x.toInt / y.toInt only overflows when `x = intMin w` and `y = allOnes w` (for `0 < w`).
To show that this is the *only* case in which overflow happens, we refer to overflow for negation (`BitVec.sdivOverflow_eq_negOverflow_of_neg_one`): in fact, `x.toInt/(allOnes w).toInt = - x.toInt`, i.e., the overflow conditions are the same as `negOverflow` for `x`, and then reason about the signs of the operands with the respective theorems. 
These BitVec theorems themselves rely on numerous `Int.ediv_*` theorems, that carefully set the bounds of signed division for integers.

co-authored by @bollu, @tobiasgrosser

### CODE REVIEW

File: src/Init/Data/Int/Lemmas.lean [hunk 1]
```diff
@@ -512,6 +512,7 @@ protected theorem sub_mul (a b c : Int) : (a - b) * c = a * c - b * c := by
   | ofNat n => show ofNat (1 * n) = ofNat n by rw [Nat.one_mul]
   | -[n+1]  => show -[1 * n +1] = -[n+1] by rw [Nat.one_mul]
 
+
```
Comment (luisacicolini) [inline src/Init/Data/Int/Lemmas.lean:515]:
```suggestion

```

File: src/Init/Data/BitVec/Basic.lean [hunk 2]
```diff
@@ -704,14 +704,23 @@ treating `x` and `y` as 2's complement signed bitvectors.
...
+For a BitVec `x` with width `0 < w`, this only happens if `x = intMin`.
 
   SMT-Lib name: `bvnego`.
 -/
 def negOverflow {w : Nat} (x : BitVec w) : Bool :=
   x.toInt == - 2 ^ (w - 1)
 
+/--
+negOverflow x` returns `true` if the divisioin of `x` by `y` results in overflow.
+For BitVecs `x` and `y` with width `0 < w`, this only happens if `x = intMin` and `y = allOnes w`.
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Basic.lean:717]:
```suggestion
negOverflow x` returns `true` if the division of `x` by `y` results in overflow.
For BitVecs `x` and `y` with width `0 < w`, this only happens if `x = intMin` and `y = allOnes w`.
```

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 3]
```diff
@@ -2330,6 +2330,77 @@ theorem bmod_neg_bmod : bmod (-(bmod x n)) n = bmod (-x) n := by
...
+    0 ≤ x / y := by
+  rw [Int.div_def]
+  unfold Int.ediv
+  obtain ⟨xn, hx⟩ := Int.eq_negSucc_of_lt_zero (a := x) (by omega)
+  obtain ⟨yn, hy⟩ := Int.eq_negSucc_of_lt_zero (a := y) (by omega)
+  simp only [hx, hy, Nat.succ_eq_add_one, ofNat_eq_coe, Int.natCast_add, cast_ofNat_Int]
+  norm_cast
+  simp
+
+theorem sdiv_neg_ge_two_ge (x y : Int) (hy' : 2 ≤ y) (hx' : x < 0) :
```
Comment (bollu) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2376]:
```suggestion
theorem div_le_of_two_le_of_lt_zero (x y : Int) (hy' : 2 ≤ y) (hx' : x < 0) :
```

I wonder what the canonical way of spelling `x < 0` is in the theorem name: do we say `lt_zero`?

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 4]
```diff
@@ -2330,6 +2330,77 @@ theorem bmod_neg_bmod : bmod (-(bmod x n)) n = bmod (-x) n := by
...
+theorem sdiv_pos_le_neg_two_ge (x y : Int) (hy' : y ≤ -2) (hx' : 0 < x) :
+    x / y ≥ -x := by
+  obtain ⟨xn, hx⟩ := Int.eq_ofNat_of_zero_le (a := x) (by omega)
+  obtain ⟨yn, hy⟩ := Int.eq_negSucc_of_lt_zero (a := y) (by omega)
+  rw [Int.div_def]
+  unfold Int.ediv
+  simp only [hx, hy, Nat.succ_eq_add_one, Int.ofNat_eq_coe, ge_iff_le, Int.neg_le_neg_iff, Int.ofNat_le]
+  apply Nat.le_trans (m := xn) (by exact Nat.div_le_self xn (yn + 1)) (by omega)
+
+theorem sdiv_pos_le_neg_two_le (x y : Int) (hy' : y ≤ -2) (hx' : 0 < x) :
```
Comment (bollu) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2396]:
```suggestion
theorem sdiv_nonpos_of_le_neg_two_of_zero_lt (x y : Int) (hy' : y ≤ -2) (hx' : 0 < x) :
```

It would be good to have an English sentence that explains what's going on. Also, doesn't the theorem hold for a looser bound, when `y <= -1`? We should try to now generalize our statements, as the proof goes through.

**Review by bollu — CHANGES_REQUESTED** [review]
I believe in `Int`, the theorems are called as `div_...` rather than `sdiv_...`? So I'd at the very least change that. We also have theorems that use `ge`, which is not the `simp` normal form:

- `sdiv_neg_ge_two_ge`
- `sdiv_neg_le_neg_two_ge`

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 5]
```diff
@@ -2354,6 +2354,81 @@ theorem bmod_neg_bmod : bmod (-(bmod x n)) n = bmod (-x) n := by
   apply (bmod_add_cancel_right x).mp
   rw [Int.add_left_neg, ← add_bmod_bmod, Int.add_left_neg]
 
+/- ### udiv, ediv -/
+
+theorem udiv_lt_self_of_two_le_zero_lt (x y : Int) (hy' : 2 ≤ y) (hx' : 0 < x):
+    x / y < x := by
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2360]:
```suggestion
theorem ediv_lt_self_of_two_le_of_zero_lt (x y : Int) (hy' : 2 ≤ y) (hx' : 0 < x):
    x / y < x := by
```

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 6]
```diff
@@ -2354,6 +2354,81 @@ theorem bmod_neg_bmod : bmod (-(bmod x n)) n = bmod (-x) n := by
...
+  rw [Int.div_def]
+  unfold Int.ediv
+  obtain ⟨xn, hx⟩ := Int.eq_ofNat_of_zero_le (a := x) (by omega)
+  obtain ⟨yn, hy⟩ := Int.eq_ofNat_of_zero_le (a := y) (by omega)
+  simp only [hx, hy, Int.ofNat_eq_coe, Int.ofNat_lt]
+  apply Nat.div_lt_self (by omega) (by omega)
+
+-- note that x < y → x / y = 0
+theorem zero_le_udiv_of_two_le_zero_lt (x y : Int) (hy' : 2 ≤ y) (hx' : 0 < x):
+    0 ≤ x / y := by
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2370]:
```suggestion
theorem zero_le_ediv_of_two_le_zero_lt (x y : Int) (hy' : 2 ≤ y) (hx' : 0 < x):
    0 ≤ x / y := by
```

the same below

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 7]
```diff
@@ -2354,6 +2354,81 @@ theorem bmod_neg_bmod : bmod (-(bmod x n)) n = bmod (-x) n := by
...
+  rw [Int.div_def]
+  unfold Int.ediv
+  obtain ⟨xn, hx⟩ := Int.eq_ofNat_of_zero_le (a := x) (by omega)
+  obtain ⟨yn, hy⟩ := Int.eq_ofNat_of_zero_le (a := y) (by omega)
+  simp only [hx, hy, Int.ofNat_eq_coe, Int.ofNat_lt]
+  exact Int.ofNat_zero_le (xn / yn)
+
+/-!
+  needs a stricter bound on x, in fact (-1)/(-2) = 1
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2379]: Is this comment still true? All proofs seem to go through?

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 8]
```diff
@@ -2354,6 +2354,81 @@ theorem bmod_neg_bmod : bmod (-(bmod x n)) n = bmod (-x) n := by
   apply (bmod_add_cancel_right x).mp
   rw [Int.add_left_neg, ← add_bmod_bmod, Int.add_left_neg]
 
+/- ### udiv, ediv -/
+
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2358]: What is `udiv`? Can you double-check that Int has an `udiv` operation. I feel what you are referring to is `\` which is called `ediv`. Please double-check this and do a pass over this PR based on what you find out.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 9]
```diff
@@ -4026,6 +4026,84 @@ theorem sdiv_self {x : BitVec w} :
...
+
+theorem toInt_sdiv_of_one {x y : BitVec 1} :
+    x.toInt / y.toInt = x &&& y := by
+  have hx := eq_zero_or_eq_one (a := x)
+  have hy := eq_zero_or_eq_one (a := y)
+  rcases hx with hx|hx <;> rcases hy with hy|hy
+  <;> (simp [hx, hy]; norm_cast)
+
+theorem sdiv_eq_of_neg_one {w : Nat} {y : BitVec w} (hy : ¬ y.toInt = 0) (hw : 1 < w) :
+    (allOnes w).toInt / y.toInt = if 0 < y.toInt then (allOnes w).toInt else (1#w).toInt := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4079]:
```suggestion
theorem toInt_allOnes_sdiv_toInt_of_ne_zero {w : Nat} {y : BitVec w} (hy : y.toInt ≠  0) (hw : 1 < w) :
    (allOnes w).toInt / y.toInt = if 0 < y.toInt then (allOnes w).toInt else (1#w).toInt := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 10]
```diff
@@ -4026,6 +4026,84 @@ theorem sdiv_self {x : BitVec w} :
...
+  · simp [hw]; omega
+  · have xle := le_two_mul_toInt (x := x); have xlt := two_mul_toInt_lt (x := x)
+    by_cases hy' : y.toInt = -1
+    · simp [hy']; omega
+    · have := Int.udiv_le_of_le_neg_two_lt_zero (x := x.toInt) (y := y.toInt) (by omega) hx
+      have := Int.neg_self_le_udiv_of_le_neg_two_zero_lt (x := x.toInt) (y := y.toInt) hy hx
+      simp; omega
+
+theorem toInt_sdiv_of_one {x y : BitVec 1} :
+    x.toInt / y.toInt = x &&& y := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4072]: There already exists `sdiv_eq_and`. Does this theorem add something or can we use `sdiv_eq_and`?

File: src/Std/Tactic/BVDecide/Normalize/BitVec.lean [hunk 11]
```diff
@@ -362,6 +362,7 @@ attribute [bv_normalize] BitVec.umulOverflow_eq
 attribute [bv_normalize] BitVec.smulOverflow_eq
 attribute [bv_normalize] BitVec.usubOverflow_eq
 attribute [bv_normalize] BitVec.ssubOverflow_eq
+attribute [bv_normalize] BitVec.sdivOverflow_eq
```
Comment (tobiasgrosser) [inline src/Std/Tactic/BVDecide/Normalize/BitVec.lean:365]: Do we lack some test cases for bv_normalize?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 12]
```diff
@@ -1359,6 +1359,83 @@ theorem negOverflow_eq {w : Nat} (x : BitVec w) :
...
+    have yle := le_two_mul_toInt (x := y); have ylt := two_mul_toInt_lt (x := y)
+    simp only [bool_to_prop]
+    by_cases hy : y = allOnes (w + 1)
+    · -- if y = allOnes (w + 1) the division overflows iff x = intMin (w + 1), as for negation
+      rw [BitVec.sdivOverflow_eq_negOverflow_of_allOnes (x := x) (y := y) hy, negOverflow,
+        Nat.add_one_sub_one, decide_and]
+      simp only [beq_eq_decide_eq, ← toInt_inj, toInt_intMin, Nat.add_one_sub_one, Int.ofNat_emod,
+        hy, decide_true, Bool.and_true, decide_eq_decide]
+      norm_cast
+      rw [Nat.mod_eq_of_lt (by apply Nat.pow_lt_pow_of_lt (a := 2) (n := w) (m := w + 1) (by omega) (by omega))]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1402]:
```suggestion
    · -- if y = allOnes (w + 1) the division overflows iff x = intMin (w + 1), as for negation
      simp [BitVec.sdivOverflow_eq_negOverflow_of_allOnes (x := x) (y := y) hy,
        negOverflow_eq, ← hy, beq_eq_decide_eq]
```

There is no need to fall to the `toInt` level. You can proof this purely at the `BitVec` level.

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 13]
```diff
@@ -2354,6 +2354,81 @@ theorem bmod_neg_bmod : bmod (-(bmod x n)) n = bmod (-x) n := by
...
+theorem ediv_lt_self_of_two_le_of_zero_lt (x y : Int) (hy' : 2 ≤ y) (hx' : 0 < x):
+    x / y < x := by
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2360]:
```suggestion
theorem ediv_lt_self_of_two_le_of_zero_lt (x y : Int) (hy' : 1 < y) (hx' : 0 < x):
    x / y < x := by
```

I prefer `1 < y` over `2 <= y`.

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 14]
```diff
@@ -2354,6 +2354,81 @@ theorem bmod_neg_bmod : bmod (-(bmod x n)) n = bmod (-x) n := by
...
+  obtain ⟨xn, hx⟩ := Int.eq_ofNat_of_zero_le (a := x) (by omega)
+  obtain ⟨yn, hy⟩ := Int.eq_ofNat_of_zero_le (a := y) (by omega)
+  simp only [hx, hy, Int.ofNat_eq_coe, Int.ofNat_lt]
+  exact Int.ofNat_zero_le (xn / yn)
+
+/-!
+  needs a stricter bound on x, in fact (-1)/(-2) = 1
+-/
+theorem udiv_lt_natAbs_self_of_le_neg_two_lt_neg_one (x y : Int) (hy' : y ≤ -2) (hx' : x < -1) :
+    x / y < x.natAbs := by
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2382]:
```suggestion
theorem udiv_lt_natAbs_self_of_le_neg_two_lt_neg_one (x y : Int) (hy' : y < -1) (hx' : x < -1) :
    x / y < x.natAbs := by
```

I prefer `<` over `<=`, also mirroring `hx'`.

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 15]
```diff
@@ -2354,6 +2354,81 @@ theorem bmod_neg_bmod : bmod (-(bmod x n)) n = bmod (-x) n := by
...
+  obtain ⟨yn, hy⟩ := Int.eq_negSucc_of_lt_zero (a := y) (by omega)
+  simp only [hx, hy, Nat.succ_eq_add_one, Int.ofNat_eq_coe, Int.natCast_add, Int.cast_ofNat_Int]
+  norm_cast
+  rw [natAbs_negSucc, Nat.succ_eq_add_one, Nat.add_lt_add_iff_right,
+    Nat.div_lt_iff_lt_mul (x := xn) (k := yn + 1) (y := xn) (by omega),
+    show (xn < xn * (yn + 1)) = (1 * xn < (yn + 1) * xn) by rw [Nat.one_mul, Nat.mul_comm]]
+  apply Nat.mul_lt_mul_of_lt_of_le (a := 1) (b := xn) (c := yn + 1) (d := xn) (by omega) (by omega) (by omega)
+
+theorem zero_le_udiv_of_le_neg_two_lt_zero (x y : Int) (hy' : y ≤ -2) (hx' : x < 0) :
+    0 ≤ x / y := by
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2395]:
```suggestion
theorem zero_le_udiv_of_le_neg_two_lt_zero (x y : Int) (hy' : y < -1) (hx' : x < 0) :
    0 ≤ x / y := by
```

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 16]
```diff
@@ -2354,6 +2354,81 @@ theorem bmod_neg_bmod : bmod (-(bmod x n)) n = bmod (-x) n := by
...
+  rw [Int.div_def]
+  unfold Int.ediv
+  obtain ⟨xn, hx⟩ := Int.eq_negSucc_of_lt_zero (a := x) (by omega)
+  obtain ⟨yn, hy⟩ := Int.eq_negSucc_of_lt_zero (a := y) (by omega)
+  simp only [hx, hy, Nat.succ_eq_add_one, ofNat_eq_coe, Int.natCast_add, cast_ofNat_Int]
+  norm_cast
+  simp
+
+theorem self_le_udiv_of_two_le_lt_zero (x y : Int) (hy' : 2 ≤ y) (hx' : x < 0) :
+    x ≤ x / y := by
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2405]:
```suggestion
theorem self_le_udiv_of_two_le_lt_zero (x y : Int) (hy' : 0 < y) (hx' : x < 0) :
    x ≤ x / y := by
```

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 17]
```diff
@@ -2354,6 +2354,81 @@ theorem bmod_neg_bmod : bmod (-(bmod x n)) n = bmod (-x) n := by
...
+  simp only [ge_iff_le, Int.le_ediv_iff_mul_le (c := y) (a := x) (b := x) (by omega),
+    show (x * y ≤ x) = (x * y ≤ x * 1) by rw [Int.mul_one], Int.mul_one]
+  apply Int.mul_le_mul_of_nonpos_left (a := x) (b := y) (c  := (1 : Int)) (by omega) (by omega)
+
+theorem udiv_lt_of_two_le_lt_zero (x y : Int) (hy' : 2 ≤ y) (hx' : x < 0) :
+    x / y < 0 := by
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2411]:
```suggestion
theorem udiv_lt_of_two_le_lt_zero (x y : Int) (hy' : 2 < y) (hx' : x < 0) :
    x / y < 0 := by
```

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 18]
```diff
@@ -2354,6 +2354,81 @@ theorem bmod_neg_bmod : bmod (-(bmod x n)) n = bmod (-x) n := by
...
+  refine Int.ediv_neg_of_neg_of_pos hx' ?_
+  omega
+
+theorem neg_self_le_udiv_of_le_neg_two_zero_lt (x y : Int) (hy' : y ≤ -2) (hx' : 0 < x) :
+    - x ≤ x / y := by
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2416]:
```suggestion
theorem neg_self_le_udiv_of_le_neg_two_zero_lt (x y : Int) (hy' : y < 0) (hx' : 0 < x) :
    - x ≤ x / y := by
```

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 19]
```diff
@@ -2354,6 +2354,81 @@ theorem bmod_neg_bmod : bmod (-(bmod x n)) n = bmod (-x) n := by
...
+  obtain ⟨xn, hx⟩ := Int.eq_ofNat_of_zero_le (a := x) (by omega)
+  obtain ⟨yn, hy⟩ := Int.eq_negSucc_of_lt_zero (a := y) (by omega)
+  rw [Int.div_def]
+  unfold Int.ediv
+  simp only [hx, hy, Nat.succ_eq_add_one, Int.ofNat_eq_coe, ge_iff_le, Int.neg_le_neg_iff, Int.ofNat_le]
+  apply Nat.le_trans (m := xn) (by exact Nat.div_le_self xn (yn + 1)) (by omega)
+
+theorem udiv_le_of_le_neg_two_lt_zero (x y : Int) (hy' : y ≤ -1) (hx' : 0 < x) :
+    x / y ≤ 0  := by
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2425]:
```suggestion
theorem udiv_le_of_le_neg_two_lt_zero (x y : Int) (hy' : y < 0) (hx' : 0 < x) :
    x / y ≤ 0  := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 20]
```diff
@@ -4026,6 +4026,84 @@ theorem sdiv_self {x : BitVec w} :
...
+  have hy : y.toNat = 0 ∨ y.toNat = 1 ∨ 1 < y.toNat := by omega
+  rcases hy with hy|hy|hy
+  · simp [hy]; omega
+  · simp [hy]; omega
+  · rw [Nat.div_lt_iff_lt_mul (k := y.toNat) (x := x.toNat) (y := 2 ^ w) (by omega), show x.toNat = x.toNat * 1 by omega]
+    apply Nat.mul_lt_mul_of_le_of_lt (by omega) (by omega) (by omega)
+
+-- non-overflowing signed division bounds when numerator is positive, denumerator is positive
+theorem zero_le_sdiv_and_sdiv_lt_two_pow_of_two_le_of_pos {w : Nat} {x y : BitVec w} (hy : 2 ≤ y.toInt) (hx : 0 < x.toInt) :
+    0 ≤ x.toInt / y.toInt ∧ x.toInt / y.toInt < 2 ^ (w - 1) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4041]:
```suggestion
theorem zero_le_sdiv_and_sdiv_lt_two_pow_of_two_le_of_pos {w : Nat} {x y : BitVec w} (hy : 1 < y.toInt) (hx : 0 < x.toInt) :
    0 ≤ x.toInt / y.toInt ∧ x.toInt / y.toInt < 2 ^ (w - 1) := by
```

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 6 above)
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean]: done! all nomes should be consistent with this now, and I tried to relax hypotheses as much as possible

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 7 above)
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean]: it is - I updated it to clarify why the hypotheses are needed

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 8 above)
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean]: done, it is indeed `ediv` the one I had in mind

File: src/Init/Data/BitVec/Lemmas.lean (hunk 9 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 10 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: indeed, the theorem is not necessary so I removed it

File: src/Init/Data/BitVec/Bitblast.lean (hunk 12 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: done!

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 14 above)
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean]: done

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 15 above)
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean]: done

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 17 above)
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean]: done

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 16 above)
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean]: done

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 18 above)
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean]: done

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 19 above)
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 20 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: I went over all theorems and this should now be fixed with conditions as weak as possible

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 13 above)
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean]: fixed everywhere

File: src/Std/Tactic/BVDecide/Normalize/BitVec.lean (hunk 11 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Normalize/BitVec.lean:365]: added one!

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 21]
```diff
@@ -2354,6 +2354,76 @@ theorem bmod_neg_bmod : bmod (-(bmod x n)) n = bmod (-x) n := by
...
+/- ### ediv -/
+
+theorem ediv_lt_self_of_pos_of_one_lt (x y : Int) (hx' : 0 < x) (hy' : 1 < y) :
+    x / y < x := by
+  rw [Int.div_def]
+  unfold Int.ediv
+  obtain ⟨xn, hx⟩ := Int.eq_ofNat_of_zero_le (a := x) (by omega)
+  obtain ⟨yn, hy⟩ := Int.eq_ofNat_of_zero_le (a := y) (by omega)
+  simp only [hx, hy, Int.ofNat_eq_coe, Int.ofNat_lt]
+  apply Nat.div_lt_self (by omega) (by omega)
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2366]:
```suggestion
theorem ediv_lt_self_of_pos_of_ne_one (x y : Int) (hx' : 0 < x) (hy : y ≠ 1) :
    x / y < x := by
  by_cases hy' : 1 < y
  · rw [Int.div_def]
    unfold Int.ediv
    obtain ⟨xn, hx⟩ := Int.eq_ofNat_of_zero_le (a := x) (by omega)
    obtain ⟨yn, hy⟩ := Int.eq_ofNat_of_zero_le (a := y) (by omega)
    simp only [hx, hy, Int.ofNat_eq_coe, Int.ofNat_lt]
    apply Nat.div_lt_self (by omega) (by omega)
  · have := @Int.ediv_nonpos_of_nonneg_of_nonpos x y (by omega) (by omega)
    omega
```

You can generalize this to the above.

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 22]
```diff
@@ -2354,6 +2354,76 @@ theorem bmod_neg_bmod : bmod (-(bmod x n)) n = bmod (-x) n := by
...
+
+-- note that x < y → x / y = 0
+theorem nonneg_ediv_of_pos_of_nonneg (x y : Int) (hx' : 0 < x) (hy' : 0 ≤ y) :
+    0 ≤ x / y := by
+  rw [Int.div_def]
+  unfold Int.ediv
+  obtain ⟨xn, hx⟩ := Int.eq_ofNat_of_zero_le (a := x) (by omega)
+  obtain ⟨yn, hy⟩ := Int.eq_ofNat_of_zero_le (a := y) (by omega)
+  simp only [hx, hy, Int.ofNat_eq_coe, Int.ofNat_lt]
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2375]:
```suggestion
theorem ediv_nonneg_of_nonneg_of_nonneg (x y : Int) (hx' : 0 ≤ x) (hy' : 0 ≤ y) :
    0 ≤ x / y := by
  rw [Int.div_def]
  unfold Int.ediv
  obtain ⟨xn, hx⟩ := Int.eq_ofNat_of_zero_le (a := x) (by omega)
  obtain ⟨yn, hy⟩ := Int.eq_ofNat_of_zero_le (a := y) (by omega)
  simp only [hx, hy, Int.ofNat_eq_coe, Int.ofNat_lt]
  exact Int.ofNat_zero_le (xn / yn)
```

If you look higher up in the file, the naming convention is `ediv_nonneg` instead of `nonneg_ediv`. Also, you can weaken `hx'`.

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 23]
```diff
@@ -2354,6 +2354,76 @@ theorem bmod_neg_bmod : bmod (-(bmod x n)) n = bmod (-x) n := by
...
+  obtain ⟨yn, hy⟩ := Int.eq_negSucc_of_lt_zero (a := y) (by omega)
+  simp only [hx, hy, Nat.succ_eq_add_one, Int.ofNat_eq_coe, Int.natCast_add, Int.cast_ofNat_Int]
+  norm_cast
+  rw [natAbs_negSucc, Nat.succ_eq_add_one, Nat.add_lt_add_iff_right,
+    Nat.div_lt_iff_lt_mul (x := xn) (k := yn + 1) (y := xn) (by omega),
+    show (xn < xn * (yn + 1)) = (1 * xn < (yn + 1) * xn) by rw [Nat.one_mul, Nat.mul_comm]]
+  apply Nat.mul_lt_mul_of_lt_of_le (a := 1) (b := xn) (c := yn + 1) (d := xn) (by omega) (by omega) (by omega)
+
+theorem nonneg_ediv_of_neg_of_neg (x y : Int) (hx' : x < 0) (hy' : y < 0) :
+    0 ≤ x / y := by
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2395]: This already exists in a more general variant as `ediv_nonneg_of_nonpos_of_nonpos`.

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 24]
```diff
@@ -2354,6 +2354,76 @@ theorem bmod_neg_bmod : bmod (-(bmod x n)) n = bmod (-x) n := by
...
+  obtain ⟨yn, hy⟩ := Int.eq_negSucc_of_lt_zero (a := y) (by omega)
+  simp only [hx, hy, Nat.succ_eq_add_one, ofNat_eq_coe, Int.natCast_add, cast_ofNat_Int]
+  norm_cast
+  simp
+
+theorem self_le_ediv_of_neg_of_pos (x y : Int) (hx' : x < 0) (hy' : 0 < y) :
+    x ≤ x / y := by
+  simp only [ge_iff_le, Int.le_ediv_iff_mul_le (c := y) (a := x) (b := x) (by omega),
+    show (x * y ≤ x) = (x * y ≤ x * 1) by rw [Int.mul_one], Int.mul_one]
+  apply Int.mul_le_mul_of_nonpos_left (a := x) (b := y) (c  := (1 : Int)) (by omega) (by omega)
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2408]:
```suggestion
theorem self_le_ediv_of_neg_of_nonneg (x y : Int) (hx' : x < 0) (hy' : 0 ≤ y) :
    x ≤ x / y := by
  by_cases y0 : y = 0
  · subst y0; simp; omega
  · simp only [ge_iff_le, Int.le_ediv_iff_mul_le (c := y) (a := x) (b := x) (by omega),
      show (x * y ≤ x) = (x * y ≤ x * 1) by rw [Int.mul_one], Int.mul_one]
    apply Int.mul_le_mul_of_nonpos_left (a := x) (b := y) (c  := (1 : Int)) (by omega) (by omega)
```

You can weaken here `hy'`.

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 25]
```diff
@@ -2354,6 +2354,76 @@ theorem bmod_neg_bmod : bmod (-(bmod x n)) n = bmod (-x) n := by
...
+
+theorem neg_self_le_ediv_of_pos_of_neg (x y : Int) (hx' : 0 < x) (hy' : y < 0) :
+    - x ≤ x / y := by
+  obtain ⟨xn, hx⟩ := Int.eq_ofNat_of_zero_le (a := x) (by omega)
+  obtain ⟨yn, hy⟩ := Int.eq_negSucc_of_lt_zero (a := y) (by omega)
+  rw [Int.div_def]
+  unfold Int.ediv
+  simp only [hx, hy, Nat.succ_eq_add_one, Int.ofNat_eq_coe, ge_iff_le, Int.neg_le_neg_iff, Int.ofNat_le]
+  apply Nat.le_trans (m := xn) (by exact Nat.div_le_self xn (yn + 1)) (by omega)
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2417]:
```suggestion
theorem neg_self_le_ediv_of_pos_of_nonpos (x y : Int) (hx' : 0 < x) (hy' : y ≤ 0) :
    - x ≤ x / y := by
  by_cases y0 : y = 0
  · subst y0; simp; omega
  · obtain ⟨xn, hx⟩ := Int.eq_ofNat_of_zero_le (a := x) (by omega)
    obtain ⟨yn, hy⟩ := Int.eq_negSucc_of_lt_zero (a := y) (by omega)
    rw [Int.div_def]
    unfold Int.ediv
    simp only [hx, hy, Nat.succ_eq_add_one, Int.ofNat_eq_coe, ge_iff_le, Int.neg_le_neg_iff, Int.ofNat_le]
    apply Nat.le_trans (m := xn) (by exact Nat.div_le_self xn (yn + 1)) (by omega)
```

You can weaken here `hy'`.

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 26]
```diff
@@ -2354,6 +2354,76 @@ theorem bmod_neg_bmod : bmod (-(bmod x n)) n = bmod (-x) n := by
...
+
+theorem nonpos_ediv_of_pos_of_neg (x y : Int) (hx' : 0 < x) (hy' : y < 0) :
+    x / y ≤ 0  := by
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2420]: This already exists as `ediv_nonpos_of_nonneg_of_nonpos` in a more generalized form.

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 25 above)
Comment (tobiasgrosser) [reply src/Init/Data/Int/DivMod/Lemmas.lean:2417]: In fact, you can make this `0 <= x`, too, AFAIU.

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 27]
```diff
@@ -2354,6 +2354,76 @@ theorem bmod_neg_bmod : bmod (-(bmod x n)) n = bmod (-x) n := by
   apply (bmod_add_cancel_right x).mp
   rw [Int.add_left_neg, ← add_bmod_bmod, Int.add_left_neg]
 
+/- ### ediv -/
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2357]: There are other ediv theorems higher up in the file. I feel these theorems may belong there.

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 21 above)
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean:2366]: done

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 23 above)
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean:2395]: removed `nonneg_ediv_of_neg_of_neg`

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 24 above)
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean:2408]: done, all hypotheses are `\le` now

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 25 above)
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean:2417]: done for both hypotheses

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 26 above)
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean:2420]: removed `nonpos_ediv_of_pos_of_neg`

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 27 above)
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean:2357]: I tried to do this, but it would require a major restructuring of the file, as some theorems that are below that section are needed to prove the ones in this PR

Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean:2357]: so I'd rather upstream this PR first and then consider moving the theorems, in a subsequent PR, if that can be useful

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 22 above)
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean:2375]: updated the name

File: src/Init/Data/BitVec/Lemmas.lean [hunk 28]
```diff
@@ -5005,6 +5094,23 @@ theorem sub_le_sub_iff_le {x y z : BitVec w} (hxz : z ≤ x) (hyz : z ≤ y) :
...
+    have xle := le_two_mul_toInt (x := x); have xlt := two_mul_toInt_lt (x := x)
+    simp only [bool_to_prop]
+    by_cases hx : x.toInt = - 2 ^ w
+    · simp [hx]
+    · simp [show ¬x.toInt == -2 ^ w by simp only [beq_iff_eq, hx, not_false_eq_true]]; omega
+
+theorem not_sdivOverflow_eq_sdiv_lt_two_pow_neg_two_pow_le_sdiv {w : Nat} {x y : BitVec w} :
+    ¬ sdivOverflow x y = (- 2 ^ (w - 1) ≤ x.toInt / y.toInt ∧ x.toInt / y.toInt < 2 ^ (w - 1)) := by
+  simp [sdivOverflow]; omega
+
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:5113]:
```suggestion


```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 29]
```diff
@@ -4026,6 +4026,95 @@ theorem sdiv_self {x : BitVec w} :
...
+  have hy : y.toNat = 0 ∨ y.toNat = 1 ∨ 1 < y.toNat := by omega
+  rcases hy with hy|hy|hy
+  · simp [hy]; omega
+  · simp [hy]; omega
+  · rw [Nat.div_lt_iff_lt_mul (k := y.toNat) (x := x.toNat) (y := 2 ^ w) (by omega), show x.toNat = x.toNat * 1 by omega]
+    apply Nat.mul_lt_mul_of_le_of_lt (by omega) (by omega) (by omega)
+
+-- non-overflowing signed division bounds when numerator is nonneg, denumerator is nonneg
+theorem zero_le_sdiv_and_sdiv_lt_two_pow_of_pos_of_pos {w : Nat} {x y : BitVec w} (hx : 0 ≤ x.toInt) (hy : 0 ≤ y.toInt) :
+    0 ≤ x.toInt / y.toInt ∧ x.toInt / y.toInt < 2 ^ (w - 1) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4041]: I am not the biggest fan of including the lower bounds in these conditions. I feel they lead to very specialized theorems. I proved the following for you:

```lean
theorem le_toInt_ediv_toInt {x y : BitVec w} :
    -(2^(w-1): Nat) ≤  x.toInt / y.toInt := by
  have : 0 ≤ (2 ^ (w - 1)) := by simp
  have x_lt := @toInt_lt w x; norm_cast at x_lt
  have le_x := @le_toInt w x; norm_cast at le_x

  by_cases xnonneg : 0 ≤ x.toInt
  · by_cases ynonneg : 0 ≤ y.toInt
    · have := @Int.ediv_nonneg_of_pos_of_nonneg x.toInt y.toInt xnonneg ynonneg
      omega
    · have := Int.neg_self_le_ediv_of_pos_of_neg x.toInt y.toInt xnonneg (by omega)
      omega
  · by_cases ynonneg : 0 ≤ y.toInt
    · have := @Int.self_le_ediv_of_neg_of_pos x.toInt y.toInt (by omega) ynonneg
      omega
    · have := @Int.ediv_nonneg_of_nonpos_of_nonpos x.toInt y.toInt (by omega) (by omega)
      omega
```

Do you think this would allow for further cleanups?

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:4041]: thank you, I've used it. I'm trying to prove (based on this) something like "when signs are discordant, the signed div is negative"

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:4041]: Not sure what this means. I would just include this at the top of sdivOverflow_eq and drop all lower-bound constraints that are now unnecessary from `zero_le_sdiv_and_sdiv_lt_two_pow_of_pos_of_pos`, `neg_two_pow_le_sdiv_and_sdiv_lt_zero_of_neg_of_pos_of_zero_lt`, `neg_two_pow_le_sdiv_and_sdiv_le_zero_of_pos_of_neg_of_zero_lt`, and `zero_le_sdiv_and_sdiv_lt_two_pow_of_neg_of_lt_neg_one`. This would allow for simpler names for these theorems and maybe lead to follow-up simplifications.

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:4041]: yes that I've done - but I have not pushed yet because I would like to also have 
```
theorem sdiv_le_zero_of_sign_ne {w : Nat} {x y : BitVec w} (hw : 0 < w):
    (x.toInt / y.toInt ≤ 0) ↔ (x.toInt = 0 ∨ y.toInt = 0 ∨ (x.toInt.sign ≠ y.toInt.sign)) := by sorry
    ```

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:4041]: Maybe push and clean the intermediate state and then let's see where things are? The other one would obviously be cute. But its likely a bit harder to prove.

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:4041]: Also, why do you want to prove the above. AFAIU you just need to prove that `x.toInt / y.toInt ≤ 2^(w-1)` (with a couple of exceptions).

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: The latest changes do not yet compile for me. :-)

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: me neither sadly :( fixing it now

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: I thought they would when I committed

File: src/Init/Data/BitVec/Lemmas.lean [hunk 30]
```diff
@@ -4026,6 +4026,101 @@ theorem sdiv_self {x : BitVec w} :
...
+    · by_cases hx' : x.toInt = 0
+      · simp [hx']
+        norm_cast
+        exact Nat.two_pow_pos (w := w)
+      · have := Int.ediv_lt_self_of_pos_of_one_ne_one (x := x.toInt) (y := y.toInt) (by omega) (by omega)
+        simp; omega
+
+-- non-overflowing signed division bounds when numerator is negative, denumerator is positive
+theorem sdiv_le_zero_of_neg_of_pos_of_zero_lt {w : Nat} {x y : BitVec w} (hx : x.toInt ≤ 0) (hy : 0 ≤ y.toInt) (hw : 0 < w) :
+    x.toInt / y.toInt ≤ 0 := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4057]: You can name this as `sdiv_nonpos_of_nonpos_of_nonpos`

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:4057]: You can also drop the `0 < w`

File: src/Init/Data/BitVec/Lemmas.lean [hunk 31]
```diff
@@ -4026,6 +4026,101 @@ theorem sdiv_self {x : BitVec w} :
...
+  have hy : y.toNat = 0 ∨ y.toNat = 1 ∨ 1 < y.toNat := by omega
+  rcases hy with hy|hy|hy
+  · simp [hy]; omega
+  · simp [hy]; omega
+  · rw [Nat.div_lt_iff_lt_mul (k := y.toNat) (x := x.toNat) (y := 2 ^ w) (by omega), show x.toNat = x.toNat * 1 by omega]
+    apply Nat.mul_lt_mul_of_le_of_lt (by omega) (by omega) (by omega)
+
+-- non-overflowing signed division bounds when numerator is nonneg, denumerator is nonneg
+theorem zero_le_sdiv_and_sdiv_lt_two_pow_of_pos_of_pos {w : Nat} {x y : BitVec w} (hx : 0 ≤ x.toInt) (hy : 0 ≤ y.toInt) :
+    x.toInt / y.toInt < 2 ^ (w - 1) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4041]: This name requires updating.

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: should be fixed now

File: src/Init/Data/BitVec/Lemmas.lean (hunk 30 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean [hunk 32]
```diff
@@ -4026,6 +4026,101 @@ theorem sdiv_self {x : BitVec w} :
...
+    · simp [Int.sign_eq_one_of_pos (a := y.toInt) (by omega), Int.neg_one_ediv]
+      omega
+    · by_cases hy : y.toInt = 0
+      · simp [hy]
+      · simp [Int.sign_eq_neg_one_of_neg (a := y.toInt) (by omega), Int.neg_one_ediv]
+        omega
+
+-- non-overflowing signed division bounds when numerator is non positive, denumerator is less than one
+theorem sdiv_lt_two_pow_of_neg_of_lt_neg_one {w : Nat} {x y : BitVec w} (hx : x.toInt ≤ 0) (hy : y.toInt < - 1)  :
+    x.toInt / y.toInt < 2 ^ (w - 1) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4092]: I feel you should be able to prove:

```lean
theorem sdiv_lt_of_ne_allOnes {w : Nat} {x y : BitVec w} (h : y ≠ allOnes w) :
    x.toInt / y.toInt < 2 ^ (w - 1) := sorry
```

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:4092]: done

File: src/Init/Data/BitVec/Lemmas.lean [hunk 33]
```diff
@@ -4026,6 +4026,101 @@ theorem sdiv_self {x : BitVec w} :
...
+  have hy : y.toNat = 0 ∨ y.toNat = 1 ∨ 1 < y.toNat := by omega
+  rcases hy with hy|hy|hy
+  · simp [hy]; omega
+  · simp [hy]; omega
+  · rw [Nat.div_lt_iff_lt_mul (k := y.toNat) (x := x.toNat) (y := 2 ^ w) (by omega), show x.toNat = x.toNat * 1 by omega]
+    apply Nat.mul_lt_mul_of_le_of_lt (by omega) (by omega) (by omega)
+
+-- non-overflowing signed division bounds when numerator is nonneg, denumerator is nonneg
+theorem sdiv_lt_two_pow_of_pos_of_pos {w : Nat} {x y : BitVec w} (hx : 0 ≤ x.toInt) (hy : 0 ≤ y.toInt) :
+    x.toInt / y.toInt < 2 ^ (w - 1) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4041]:
```suggestion
theorem sdiv_lt_of_nonneg_of_nonneg {w : Nat} {x y : BitVec w} (hx : 0 ≤ x.toInt) (hy : 0 ≤ y.toInt) :
    x.toInt / y.toInt < 2 ^ (w - 1) := by
```

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean [hunk 34]
```diff
@@ -4026,6 +4026,101 @@ theorem sdiv_self {x : BitVec w} :
...
+  · by_cases hx' : x.toInt = 0
+    · simp [hx']
+    · by_cases hy' : y.toInt = 0
+      · simp [hy']
+      · have := Int.ediv_neg_of_neg_of_pos (a := x.toInt) (b := y.toInt) (by omega) (by omega)
+        simp; omega
+
+-- non-overflowing signed division bounds when numerator is positive, denumerator is negative
+theorem sdiv_nonpos_of_pos_of_nonneg_of_nonpos {w : Nat} {x y : BitVec w} (hx : 0 ≤ x.toInt) (hy : y.toInt ≤ 0) :
+   x.toInt / y.toInt ≤ 0 := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4069]:
```suggestion
theorem sdiv_nonpos_of_nonneg_of_nonpos {w : Nat} {x y : BitVec w} (hx : 0 ≤ x.toInt) (hy : y.toInt ≤ 0) :
   x.toInt / y.toInt ≤ 0 := by
```

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 32 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:4092]: However, you would still need to prove it.

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:4092]: oh no sorry I misread the comment and thought you were proposing a new name - will fix that (and prove the theorem) soon

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:4092]: however, there is one cases in which the theorem does not hold: `#eval (1#1).toInt/(1#1).toInt < 2 ^ 0`. I would personally rather leave the `lt`, instead of adding another hypotheses on `w` (and have changed the name back to what it was)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 35]
```diff
@@ -4116,6 +4116,103 @@ theorem sdiv_self {x : BitVec w} :
...
+  · by_cases 0 < y.toInt
+    · simp [Int.sign_eq_one_of_pos (a := y.toInt) (by omega), Int.neg_one_ediv]
+      omega
+    · by_cases hy : y.toInt = 0
+      · simp [hy]
+      · simp [Int.sign_eq_neg_one_of_neg (a := y.toInt) (by omega), Int.neg_one_ediv]
+        omega
+
+#eval (1#1).toInt/(1#1).toInt < 2 ^ 0
+
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:4181]:
```suggestion


```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 29 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: Spent some more time thinking about `sdiv_le_zero_of_sign_ne`: since it seems to be quite a long proof, I would like to push this PR forward and then potentially write the theorem in a subsequenty pr.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 36]
```diff
@@ -4139,6 +4139,103 @@ theorem sdiv_self {x : BitVec w} :
...
+  · simp [hw]; omega
+  · by_cases 0 < y.toInt
+    · simp [Int.sign_eq_one_of_pos (a := y.toInt) (by omega), Int.neg_one_ediv]
+      omega
+    · by_cases hy : y.toInt = 0
+      · simp [hy]
+      · simp [Int.sign_eq_neg_one_of_neg (a := y.toInt) (by omega), Int.neg_one_ediv]
+        omega
+
+
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean:4203]:
```suggestion
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 37]
```diff
@@ -4139,6 +4139,101 @@ theorem sdiv_self {x : BitVec w} :
       rcases x.msb with msb | msb <;> simp
     · rcases x.msb with msb | msb <;> simp [h]
 
+-- unsigned division never overflows
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:4142]:
```suggestion
/-- Unsigned division never overflows. -/
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 38]
```diff
@@ -5137,6 +5232,19 @@ theorem sub_le_sub_iff_le {x y z : BitVec w} (hxz : z ≤ x) (hyz : z ≤ y) :
...
+  simp only [sdivOverflow, hy, toInt_allOnes, Int.reduceNeg, ge_iff_le, negOverflow]
+  rcases w with _|w
+  · simp [of_length_zero]
+  · simp only [Nat.add_one_sub_one, Nat.zero_lt_succ, ↓reduceIte, Int.reduceNeg, Int.ediv_neg,
+      Int.ediv_one, Int.neg_lt_neg_iff]
+    have xle := le_two_mul_toInt (x := x); have xlt := two_mul_toInt_lt (x := x)
+    simp only [bool_to_prop]
+    by_cases hx : x.toInt = - 2 ^ w
+    · simp [hx]
+    · simp [show ¬x.toInt == -2 ^ w by simp only [beq_iff_eq, hx, not_false_eq_true]]; omega
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:5246]: I'm a bit surprised that this proof is so long! In my naive imagination, we should that `x / allOnes w = -x`, and the result immediately follows that sdiv overflowing is equivalent to negation overflowing in this case. 

If this proof strategy does not work, a comment clarifying why this proof strategy does not work would be appreiated!

File: src/Init/Data/BitVec/Lemmas.lean [hunk 39]
```diff
@@ -4139,6 +4139,101 @@ theorem sdiv_self {x : BitVec w} :
...
+      simp only [toInt_allOnes, Nat.lt_add_left_iff_pos, Nat.zero_lt_succ, ↓reduceIte,
+        Int.reduceNeg] at this
+      simp [hx', this]
+      omega
+    · have := Int.ediv_lt_natAbs_self_of_lt_neg_one_of_lt_neg_one (x := x.toInt) (y := y.toInt) (by omega) hy
+      simp; omega
+
+-- signed division of (x y : BitVec w) is always -2 ^ w ≤ x.toInt / y.toInt
+theorem neg_two_pow_le_sdiv {x y : BitVec w} :
+    - 2 ^ (w - 1) ≤ x.toInt / y.toInt := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:4225]:
```suggestion
/-- For bitvectors `x, y` of width `w`, `-2 ^ w` is a lower bound of `x.toInt / y.toInt`.
theorem neg_two_pow_le_toInt_div_toInt {x y : BitVec w} :
    - 2 ^ (w - 1) ≤ x.toInt / y.toInt := by
```

I suggest a new theorem name, since the theorem, as far as I can tell, is not about `sdiv` at all, but rather a bound about `x.toInt / y.toInt`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 40]
```diff
@@ -4139,6 +4139,101 @@ theorem sdiv_self {x : BitVec w} :
...
+    · simp [hy', Int.ediv_one]; omega
+    · by_cases hx' : x.toInt = 0
+      · simp [hx']
+        norm_cast
+        exact Nat.two_pow_pos (w := w)
+      · have := Int.ediv_lt_self_of_pos_of_one_ne_one (x := x.toInt) (y := y.toInt) (by omega) (by omega)
+        simp; omega
+
+-- non-overflowing signed division bounds when numerator is negative, denumerator is positive
+theorem sdiv_nonpos_of_nonpos_of_nonneg {w : Nat} {x y : BitVec w} (hx : x.toInt ≤ 0) (hy : 0 ≤ y.toInt) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:4169]:
```suggestion
/-- Signed division is nonpositive when numerator and denominator are nonpositive. -/
theorem sdiv_nonpos_of_nonpos_of_nonneg {w : Nat} {x y : BitVec w} (hx : x.toInt ≤ 0) (hy : 0 ≤ y.toInt) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 41]
```diff
@@ -4139,6 +4139,101 @@ theorem sdiv_self {x : BitVec w} :
...
+  · by_cases hx' : x.toInt = 0
+    · simp [hx']
+    · by_cases hy' : y.toInt = 0
+      · simp [hy']
+      · have := Int.ediv_neg_of_neg_of_pos (a := x.toInt) (b := y.toInt) (by omega) (by omega)
+        simp; omega
+
+-- non-overflowing signed division bounds when numerator is positive, denumerator is negative
+theorem sdiv_nonpos_of_nonneg_of_nonpos {w : Nat} {x y : BitVec w} (hx : 0 ≤ x.toInt) (hy : y.toInt ≤ 0) :
+   x.toInt / y.toInt ≤ 0 := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:4182]:
```suggestion
/-- Signed division is nonpositive when numerator and denominator are nonpositive. -/
theorem toInt_sdiv_nonpos_of_nonneg_of_nonpos {w : Nat} {x y : BitVec w} (hx : 0 ≤ x.toInt) (hy : y.toInt ≤ 0) :
   (x / y).toInt ≤ 0 := by
```


It is not clear to me that the theorem should say `sdiv...`. I feel it should either say `toInt_sdiv` and the theorem statement should be changed to talk about `(x / y).toInt`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 42]
```diff
@@ -4139,6 +4139,101 @@ theorem sdiv_self {x : BitVec w} :
...
+  rcases w with _|w
+  · simp [of_length_zero]
+  · by_cases hy' : y.toInt = -1
+    · simp [hy']; omega
+    · have := Int.ediv_nonpos_of_nonneg_of_nonpos (a := x.toInt) (b := y.toInt) (by omega) (by omega)
+      simp; omega
+
+theorem toInt_allOnes_sdiv_toInt_of_ne_zero {w : Nat} {y : BitVec w} (hw : 1 < w) :
+    (allOnes w).toInt / y.toInt = if y.toInt = 0 then 0 else if 0 < y.toInt then -1 else 1 := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:4191]:
```suggestion
theorem toInt_allOnes_div_toInt_of_lt_one {w : Nat} {y : BitVec w} (hw : 1 < w) :
    (allOnes w).toInt / y.toInt = if y.toInt = 0 then 0 else if 0 < y.toInt then -1 else 1 := by
```

IIUC, the integer operation is called `div`, so we should reflect that in the theorem name. Also, our hypothesis is that `1 < w`. Also, I find this theorem counterintuitive, so an explanation would help 😅

File: src/Init/Data/BitVec/Lemmas.lean (hunk 37 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:4142]: fixed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 38 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:5246]: added 
`theorem sdiv_allOnes {w : Nat} {x : BitVec w} : 
    x.toInt / (allOnes w).toInt = - x.toInt`
to make the strategy cleared

File: src/Init/Data/BitVec/Lemmas.lean (hunk 39 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: I see. In this case, I would also propose changing the def of `sdivOverflow` to use `sdiv`, though, and update everything accordingly. 
In particular, I would expect to unfold the `sdiv` operation (`BitVec.sdiv_eq`) and match based on the `msb` (instead of the signs of `toInt`) and _then_ refer to the corresponding `Int.*` theorems. I am not sure which of these strategies is better, suggestions are welcome.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 41 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: same as prev. comment

File: src/Init/Data/BitVec/Lemmas.lean (hunk 42 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:4191]: Correct, I think the correct name according to `Int` nomenclature is actually `ediv` and will update it. 
I added this theorem after observing the following
```lean
#eval (-1) / 5 = -1
#eval (-1) / (-5) = 1
```
as opposed to 
```
#eval 1 / 5 = 0
#eval 1 / (-5) = 0
```
I find this step very important to understand and correctly use signed division, and therefore wanted to point it out with a theorem. 
I'm happy to add the following comment: 
`Given any integer y : Int different than zero, the signed division -1/y will always be -1 (if y is positive) or 1 (if y is negative). This is due to the definition of ediv for signed integer division, which these theorems reference.`

File: src/Init/Data/BitVec/Lemmas.lean (hunk 39 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: I fundamentally see two ways in which we can prove this set of `sdivOverflow`-related theorems: 
1. base these theorems on `sdiv` (e.g. `x.sdiv y`) and based on the `msb` of `x` and `y` reference different `ediv` theorems 
2. use `toInt` and directly refer `Int.ediv` operation reasoning about the signs of `toInt` (current strategy)
I'm also happy to switch to (1) and open a new PR to anyways upstream the theorems I wrote using `toInt` (I believe they are anyways useful). @tobiasgrosser, I'd be interested to know what you think of this!

File: src/Init/Data/BitVec/Lemmas.lean (hunk 42 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:4191]: It might make sense to quote from:

> The Euclidean Definition of the Functions div and mod (https://dl.acm.org/doi/pdf/10.1145/128861.128862)

which analyzes `ediv/emod`, `tdiv/tmod` , and `fdiv/fmod` in great detail.

--- 


As I recall, the explanation is as follows. Given `n, d`, we want to find numbers `q, r` (for `ediv/emod`) such that `q = n.ediv d` and `r = n.emod d` such that  `0 <= r < d`, and `n = q * d + r`. This is saying that `r` is the smallest non-negative integer that is equivalent modulo `d` to `n`. 

- Now, consider the case where `d` is non-negative (e.g. `d = 5`). If we now have `n = -1`, we get `r = 5 - 1 = 4` as the smallest non-negative number which is equivalent to `-1` modulo `5`. Furthermore, since `n = q * d + r`, we know that `q = (n - r)/d`, which in this case becomes `q = (-1 - (d - 1))/d` = (-1 - d + 1)/d = -d/d = -1`. So, the result of the division, the quotient, is `-1`.

- By a symmetric argument, we can argue that `q = 1` hen `d` is non-positive. 


--- 

I'm not sure how best to condense the above into a good explanation for the person reading the file. Happy to bounce on this a couple times :)

File: src/Init/Data/BitVec/Lemmas.lean (hunk 39 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: I have now updated the names of the theorems using `toInt`, but will soon open a new PR with the corresponding `sdiv` statements.

**Comment by bollu** [comment]
> I fundamentally see two ways in which we can prove this set of `sdivOverflow`-related theorems:
> 
> 1. base these theorems on `sdiv` (e.g. `x.sdiv y`) and based on the `msb` of `x` and `y` reference different `ediv` theorems
> 2. use `toInt` and directly refer `Int.ediv` operation reasoning about the signs of `toInt` (current strategy)
>    I'm also happy to switch to (1) and open a new PR to anyways upstream the theorems I wrote using `toInt` (I believe they are anyways useful). @tobiasgrosser, I'd be interested to know what you think of this!


@luisacicolini I don't see why we need a new PR. I feel the theorems, as they currently exist (e.g. `neg_two_pow_le_toInt_div_toInt`) are properly named, and have the correct theorem statement? So what is the PR you propose going to do?

**Comment by bollu** [comment]
BTW, I made an oopsie in suggesting names: It should be `Int.ediv_...` for theorems that mention `a / b` for `a, b : Int`. So we should name `neg_two_pow_le_toInt_div_toInt` as `neg_two_pow_le_toInt_ediv_toInt`, but that's the only change we should make!

**Comment by tobiasgrosser** [comment]
@luisacicolini, I think we just need to do a final pass on the theorem names as @bollu suggested. Otherwise, this seems to be ready to ship.

**Comment by luisacicolini** [comment]
thank you @tobiasgrosser @bollu. The names should be correct already, if the PR looks good for you I'm happy to open it.

**Comment by tobiasgrosser** [comment]
Let me do a pass tonight.

**Comment by luisacicolini** [comment]
> Let me do a pass tonight.

sure - no hurry!

File: src/Init/Data/BitVec/Lemmas.lean [hunk 43]
```diff
@@ -4139,6 +4139,109 @@ theorem sdiv_self {x : BitVec w} :
       rcases x.msb with msb | msb <;> simp
     · rcases x.msb with msb | msb <;> simp [h]
 
+/-- Unsigned division never overflows. -/
+theorem toNat_udiv_lt {w : Nat} {x y : BitVec w} :
+    x.toNat / y.toNat < 2 ^ w := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4144]:
```suggestion
theorem toNat_div_toNat_lt {w : Nat} {x y : BitVec w} :
    x.toNat / y.toNat < 2 ^ w := by
```

- AFAIU `/` on type Nat is just named `div`.
- There are two toNat on the LHS. AFAIU they should both be used in the name.

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:4144]: okay, so should I also rename all the other ones to `toInt_ediv_toInt_*`?

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:4144]: Yes, I just am heading for breakfast but was interrupted in my review. Can you carefully look over the names. I will make a pass later today.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 44]
```diff
@@ -4139,6 +4139,109 @@ theorem sdiv_self {x : BitVec w} :
...
+  have hy : y.toNat = 0 ∨ y.toNat = 1 ∨ 1 < y.toNat := by omega
+  rcases hy with hy|hy|hy
+  · simp [hy]; omega
+  · simp [hy]; omega
+  · rw [Nat.div_lt_iff_lt_mul (k := y.toNat) (x := x.toNat) (y := 2 ^ w) (by omega), show x.toNat = x.toNat * 1 by omega]
+    apply Nat.mul_lt_mul_of_le_of_lt (by omega) (by omega) (by omega)
+
+/-- Non-overflowing signed division bounds when numerator is nonneg, denumerator is nonneg. -/
+theorem toInt_ediv_of_nonneg_of_nonneg {w : Nat} {x y : BitVec w} (hx : 0 ≤ x.toInt) (hy : 0 ≤ y.toInt) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4153]:
```suggestion
theorem toInt_ediv_toInt_lt_of_nonneg_of_nonneg {w : Nat} {x y : BitVec w} (hx : 0 ≤ x.toInt) (hy : 0 ≤ y.toInt) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 45]
```diff
@@ -4139,6 +4139,109 @@ theorem sdiv_self {x : BitVec w} :
...
+    · simp [hy', Int.ediv_one]; omega
+    · by_cases hx' : x.toInt = 0
+      · simp [hx']
+        norm_cast
+        exact Nat.two_pow_pos (w := w)
+      · have := Int.ediv_lt_self_of_pos_of_one_ne_one (x := x.toInt) (y := y.toInt) (by omega) (by omega)
+        simp; omega
+
+/-- Nnon-overflowing signed division bounds when numerator is nonpos, denumerator is nonneg. -/
+theorem toInt_ediv_nonpos_of_nonpos_of_nonneg {w : Nat} {x y : BitVec w} (hx : x.toInt ≤ 0) (hy : 0 ≤ y.toInt) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4169]:
```suggestion
theorem toInt_ediv_toInt_nonpos_of_nonpos_of_nonneg {w : Nat} {x y : BitVec w} (hx : x.toInt ≤ 0) (hy : 0 ≤ y.toInt) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 46]
```diff
@@ -4139,6 +4139,109 @@ theorem sdiv_self {x : BitVec w} :
...
+/-- Given the definition of ediv/emod for signed integer division (https://dl.acm.org/doi/pdf/10.1145/128861.128862)
+  we have that for two integers x and y: x/y = q ↔ x.ediv y = q ↔ r = x.emod y
+  and in particular: -1/y = q ↔ -1.ediv y = q ↔ r = -1.emod y.
+  from which it follows that:
+  (-1)/0 = 0
+  (-1)/y = -1 when 0 < y
+  (-1)/(-5) = 1 when y < 0
+-/
+theorem toInt_ediv_of_allOnes_of_ne_zero {w : Nat} {y : BitVec w} (hw : 1 < w) :
+    (allOnes w).toInt / y.toInt = if y.toInt = 0 then 0 else if 0 < y.toInt then -1 else 1 := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4199]: `of_ne_zero`, either drop the of (as this is just about w) or rename it to `of_one_lt`.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 45 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: doen

File: src/Init/Data/BitVec/Lemmas.lean (hunk 44 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean [hunk 47]
```diff
@@ -4139,6 +4139,109 @@ theorem sdiv_self {x : BitVec w} :
...
+  · by_cases 0 < y.toInt
+    · simp [Int.sign_eq_one_of_pos (a := y.toInt) (by omega), Int.neg_one_ediv]
+      omega
+    · by_cases hy : y.toInt = 0
+      · simp [hy]
+      · simp [Int.sign_eq_neg_one_of_neg (a := y.toInt) (by omega), Int.neg_one_ediv]
+        omega
+
+/-- Non-overflowing signed division bounds when numerator is nonpos, denumerator is less than -1. -/
+theorem toInt_ediv_lt_of_lt_allOnes {w : Nat} {x y : BitVec w} (hx : x.toInt ≤ 0) (hy : y.toInt < - 1)  :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
theorem toInt_ediv_toInt_lt_of_nonpos_of_lt_neg_one {w : Nat} {x y : BitVec w} (hx : x.toInt ≤ 0) (hy : y.toInt < - 1)  :
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 43 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done for all `BitVec.toInt_ediv_*` theorems

File: src/Init/Data/BitVec/Lemmas.lean (hunk 47 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 46 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: dropped `of_ne_zero`

File: src/Init/Data/BitVec/Lemmas.lean [hunk 48]
```diff
@@ -4139,6 +4139,109 @@ theorem sdiv_self {x : BitVec w} :
...
+      simp only [toInt_allOnes, Nat.lt_add_left_iff_pos, Nat.zero_lt_succ, ↓reduceIte,
+        Int.reduceNeg] at this
+      simp [hx', this]
+      omega
+    · have := Int.ediv_lt_natAbs_self_of_lt_neg_one_of_lt_neg_one (x := x.toInt) (y := y.toInt) (by omega) hy
+      simp; omega
+
+/-- Signed division of (x y : BitVec w) is always -2 ^ w ≤ x.toInt / y.toInt. -/
+theorem neg_two_pow_le_toInt_ediv {x y : BitVec w} :
+    - 2 ^ (w - 1) ≤ x.toInt / y.toInt := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4233]:
```suggestion
theorem le_toInt_ediv_toInt {x y : BitVec w} :
    - 2 ^ (w - 1) ≤ x.toInt / y.toInt := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 49]
```diff
@@ -4139,6 +4139,109 @@ theorem sdiv_self {x : BitVec w} :
       rcases x.msb with msb | msb <;> simp
     · rcases x.msb with msb | msb <;> simp [h]
 
+/-- Unsigned division never overflows. -/
+theorem toNat_udiv_toNat_lt {w : Nat} {x y : BitVec w} :
+    x.toNat / y.toNat < 2 ^ w := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4144]:
```suggestion
theorem toNat_div_toNat_lt {w : Nat} {x y : BitVec w} :
    x.toNat / y.toNat < 2 ^ w := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 50]
```diff
@@ -4139,6 +4139,109 @@ theorem sdiv_self {x : BitVec w} :
...
+  have hy : y.toNat = 0 ∨ y.toNat = 1 ∨ 1 < y.toNat := by omega
+  rcases hy with hy|hy|hy
+  · simp [hy]; omega
+  · simp [hy]; omega
+  · rw [Nat.div_lt_iff_lt_mul (k := y.toNat) (x := x.toNat) (y := 2 ^ w) (by omega), show x.toNat = x.toNat * 1 by omega]
+    apply Nat.mul_lt_mul_of_le_of_lt (by omega) (by omega) (by omega)
+
+/-- Non-overflowing signed division bounds when numerator is nonneg, denumerator is nonneg. -/
+theorem toInt_ediv_toInt_of_nonneg_of_nonneg {w : Nat} {x y : BitVec w} (hx : 0 ≤ x.toInt) (hy : 0 ≤ y.toInt) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4153]:
```suggestion
theorem toInt_ediv_toInt_lt_of_nonneg_of_nonneg {w : Nat} {x y : BitVec w} (hx : 0 ≤ x.toInt) (hy : 0 ≤ y.toInt) :
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 49 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:4144]: I'm not sure about this, it seems like `udiv` is used: 
- https://leanprover-community.github.io/mathlib4_docs/Init/Data/BitVec/Lemmas.html#BitVec.toNat_udiv
- https://leanprover-community.github.io/mathlib4_docs/Init/Data/BitVec/Bitblast.html#BitVec.udiv_eq_of_mul_add_toNat
whenever `toNat` is applied to a bitvector (and `ediv` when `toInt` is applied, afaict)

File: src/Init/Data/BitVec/Lemmas.lean (hunk 50 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 48 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:4233]: for consistency with the other overflow-related theorems naming, I'd rather maintain the `neg_two` in the name.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 49 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:4144]: These two uses of `udiv` refer to `BitVec.udiv`, not `Nat.div`:

```lean
@[simp, bitvec_to_nat]
theorem toNat_udiv {x y : BitVec n} : (x / y).toNat = x.toNat / y.toNat := by
  rfl
```

the above is equivalent to:

```lean
@[simp, bitvec_to_nat]
theorem toNat_udiv {x y : BitVec n} : BitVec.toNat (x / y) = x.toNat / y.toNat := by
  rfl
```

So the `toNat_udiv` refers to the functions `BitVec.toNat` and `/` which in this case is `BitVec.udiv`.

In the second example we have:

```lean
theorem udiv_eq_of_mul_add_toNat {d n q r : BitVec w} (hd : 0 < d)
    (hrd : r < d)
    (hdqnr : d.toNat * q.toNat + r.toNat = n.toNat) :
    n / d = q 
```

Here `n` and `d` are both of type `BitVec`, which means the `/` is `BitVec.udiv`, not `Nat.div`.

All uses of `/` on the type `Nat` use the name `div`, e.g., https://leanprover-community.github.io/mathlib4_docs/Init/Data/Nat/Div/Basic.html#Nat.div_eq_of_lt. Hence, I would suggest to stay with `div`. Does this seem consistent to you?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 51]
```diff
@@ -4139,6 +4139,109 @@ theorem sdiv_self {x : BitVec w} :
...
+    · simp [hy', Int.ediv_one]; omega
+    · by_cases hx' : x.toInt = 0
+      · simp [hx']
+        norm_cast
+        exact Nat.two_pow_pos (w := w)
+      · have := Int.ediv_lt_self_of_pos_of_one_ne_one (x := x.toInt) (y := y.toInt) (by omega) (by omega)
+        simp; omega
+
+/-- Nnon-overflowing signed division bounds when numerator is nonpos, denumerator is nonneg. -/
+theorem toInt_ediv_toInt_le_nonpos_of_nonpos_of_nonneg {w : Nat} {x y : BitVec w} (hx : x.toInt ≤ 0) (hy : 0 ≤ y.toInt) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4169]:
```suggestion
theorem toInt_ediv_toInt_nonpos_of_nonpos_of_nonneg {w : Nat} {x y : BitVec w} (hx : x.toInt ≤ 0) (hy : 0 ≤ y.toInt) :
```

Sorry, I may have asked for sth different, but if we say `nonpos` we do not need the `le_`, no?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 52]
```diff
@@ -4139,6 +4139,109 @@ theorem sdiv_self {x : BitVec w} :
...
+    by_cases hy' : y.toInt = 1
+    · simp [hy', Int.ediv_one]; omega
+    · by_cases hx' : x.toInt = 0
+      · simp [hx']
+        norm_cast
+        exact Nat.two_pow_pos (w := w)
+      · have := Int.ediv_lt_self_of_pos_of_one_ne_one (x := x.toInt) (y := y.toInt) (by omega) (by omega)
+        simp; omega
+
+/-- Nnon-overflowing signed division bounds when numerator is nonpos, denumerator is nonneg. -/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4168]:
```suggestion
/-- Non-overflowing signed division bounds when numerator is nonpos, denumerator is nonneg. -/
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 53]
```diff
@@ -4139,6 +4139,109 @@ theorem sdiv_self {x : BitVec w} :
...
+  · simp [of_length_zero]
+  · by_cases hx' : x.toInt = 0
+    · simp [hx']
+    · by_cases hy' : y.toInt = 0
+      · simp [hy']
+      · have := Int.ediv_neg_of_neg_of_pos (a := x.toInt) (b := y.toInt) (by omega) (by omega)
+        simp; omega
+
+/-- Non-overflowing signed division bounds when numerator is positive, denumerator is negative. -/
+theorem toInt_ediv_toInt_le_nonpos_of_nonneg_of_nonpos {w : Nat} {x y : BitVec w} (hx : 0 ≤ x.toInt) (hy : y.toInt ≤ 0) :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4181]:
```suggestion
theorem toInt_ediv_toInt_nonpos_of_nonneg_of_nonpos {w : Nat} {x y : BitVec w} (hx : 0 ≤ x.toInt) (hy : y.toInt ≤ 0) :
```

I may have made the same mistake as above, but `_le` is not needed if we say `_nonpos`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 54]
```diff
@@ -4139,6 +4139,109 @@ theorem sdiv_self {x : BitVec w} :
...
+  · by_cases 0 < y.toInt
+    · simp [Int.sign_eq_one_of_pos (a := y.toInt) (by omega), Int.neg_one_ediv]
+      omega
+    · by_cases hy : y.toInt = 0
+      · simp [hy]
+      · simp [Int.sign_eq_neg_one_of_neg (a := y.toInt) (by omega), Int.neg_one_ediv]
+        omega
+
+/-- Non-overflowing signed division bounds when numerator is nonpos, denumerator is less than -1. -/
+theorem toInt_ediv_toInt_lt_of_lt_allOnes {w : Nat} {x y : BitVec w} (hx : x.toInt ≤ 0) (hy : y.toInt < - 1)  :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4212]:
```suggestion
theorem toInt_ediv_toInt_lt_of_nonpos_of_lt_neg_one {w : Nat} {x y : BitVec w} (hx : x.toInt ≤ 0) (hy : y.toInt < -1)  :
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 48 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:4233]: Thank you for looking into this carefully. I guess you are referring to:

```lean
theorem two_pow_le_toInt_mul_toInt_iff {x y : BitVec w} :
    2 ^ (w - 1) ≤ x.toInt * y.toInt ...
```

You also seem to add:
```lean
theorem toInt_ediv_toInt_lt_of_nonneg_of_nonneg {w : Nat} {x y : BitVec w} (hx : 0 ≤ x.toInt) (hy : 0 ≤ y.toInt) :
    x.toInt / y.toInt < 2 ^ (w - 1) := by
```

and we already have:

```lean
theorem toNat_mul_toNat_lt {x y : BitVec w} : x.toNat * y.toNat < 2 ^ (w * 2) := by
  have := BitVec.isLt x; have := BitVec.isLt y
  simp only [Nat.mul_two, Nat.pow_add]
  exact Nat.mul_lt_mul_of_le_of_lt (by omega) (by omega) (by omega)
```

As well as many `toNat_lt`, `le_toNat` variants, all without `two_pow`. 

This is already inconsistent in the existing codebase. Statistically, it seems that cases without `two_pow` are more common.

**Review by tobiasgrosser — COMMENTED** [review]
Another run of naming comments. I hope this is the last one.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 49 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:4144]: sure it does, I've updated it

File: src/Init/Data/BitVec/Lemmas.lean (hunk 53 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: fixed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 54 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: fixed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 52 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: fixed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 51 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: fixed

File: src/Init/Data/BitVec/Basic.lean [hunk 55]
```diff
@@ -767,6 +767,15 @@ SMT-Lib name: `bvnego`.
 def negOverflow {w : Nat} (x : BitVec w) : Bool :=
   x.toInt == - 2 ^ (w - 1)
 
+/--
+Checks whether the signed division of `x` by `y` results in overflow.
+For BitVecs `x` and `y` with width `0 < w`, this happens iff `x = intMin` and `y = allOnes w`.
```
Comment (bollu) [inline src/Init/Data/BitVec/Basic.lean:772]:
```suggestion
For BitVecs `x` and `y` with nonzero width, this only happens if `x = intMin` and `y = allOnes w`.
```

Following the comment style for `negOverflow`.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 56]
```diff
@@ -1359,6 +1359,60 @@ theorem negOverflow_eq {w : Nat} (x : BitVec w) :
...
+
+  We can then reason about the signs of the operands. All these cases rely on respective
+  theorems specifying the bounds of signed division once the special cases are excluded:
+  · BitVec.toInt_ediv_toInt_lt_of_nonneg_of_nonneg when 0 < y.toInt and 0 < x.toInt
+  · BitVec.toInt_ediv_toInt_nonpos_of_nonpos_of_nonneg when 0 < y.toInt and x.toInt < 0
+  · BitVec.toInt_ediv_toInt_nonpos_of_nonneg_of_nonpos when y.toInt < 0 and 0 < x.toInt
+  · BitVec.toInt_ediv_toInt_lt_of_nonpos_of_lt_neg_one when y.toInt < -1 and x.toInt < 0
+
+  These BitVec theorems themselves rely on numerous Int.udiv_* theorems, that carefully
+  set the bounds of signed division for integers.
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:1379]:
```suggestion
  These BitVec theorems themselves rely on numerous Int.udiv_* theorems, that carefully
  propagate bounds for signed division for integers.
```

I would not use the word 'set', since that has an imperative flavour. I would say "propagate bounds", ala [bounds propagation](https://en.wikipedia.org/wiki/Propagation_of_uncertainty).

File: src/Init/Data/BitVec/Lemmas.lean [hunk 57]
```diff
@@ -4139,6 +4139,109 @@ theorem sdiv_self {x : BitVec w} :
...
+/-- Given the definition of ediv/emod for signed integer division (https://dl.acm.org/doi/pdf/10.1145/128861.128862)
+  we have that for two integers x and y: x/y = q ↔ x.ediv y = q ↔ r = x.emod y
+  and in particular: -1/y = q ↔ -1.ediv y = q ↔ r = -1.emod y.
+  from which it follows that:
+  (-1)/0 = 0
+  (-1)/y = -1 when 0 < y
+  (-1)/(-5) = 1 when y < 0
+-/
+theorem toInt_ediv_toInt_eq_of_allOnes {w : Nat} {y : BitVec w} (hw : 1 < w) :
+    (allOnes w).toInt / y.toInt = if y.toInt = 0 then 0 else if 0 < y.toInt then -1 else 1 := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:4199]: Is `(allOnes w).toInt` in simp-normal-form?

**Review by bollu — CHANGES_REQUESTED** [review]
We're getting there, the proofs look clean :) I have some simp-normal-form questions, and two naming convention changes, for which I'll request changes before a final round of review.

File: src/Init/Data/BitVec/Basic.lean (hunk 55 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Basic.lean:772]: fixed

File: src/Init/Data/BitVec/Bitblast.lean (hunk 56 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean:1379]: accepted

File: src/Init/Data/BitVec/Lemmas.lean (hunk 57 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:4199]: It is not. However, the NF is `if 0 < w then -1 else 0`, which I personally don't particularly like (also bc given the `if` I can not use `hw` to get rid of it within `simp`). I thus went for `-1` directly and changed the name accordingly.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 58]
```diff
@@ -5137,6 +5240,24 @@ theorem sub_le_sub_iff_le {x y z : BitVec w} (hxz : z ≤ x) (hyz : z ≤ y) :
     BitVec.toNat_sub_of_le (by rw [BitVec.le_def]; omega)]
   omega
 
+theorem sdiv_allOnes {w : Nat} {x : BitVec w} :
+    x.toInt / (allOnes w).toInt = - x.toInt := by
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:5244]: same as before, changed to `-1` and updated the name

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 59]
```diff
@@ -2415,6 +2415,65 @@ theorem dvd_iff_bmod_eq_zero {a : Nat} {b : Int} : (a : Int) ∣ b ↔ b.bmod a
...
+  obtain ⟨xn, hx⟩ := Int.eq_negSucc_of_lt_zero (a := x) (by omega)
+  obtain ⟨yn, hy⟩ := Int.eq_negSucc_of_lt_zero (a := y) (by omega)
+  simp only [hx, hy, Nat.succ_eq_add_one, Int.ofNat_eq_coe, Int.natCast_add, Int.cast_ofNat_Int]
+  norm_cast
+  rw [natAbs_negSucc, Nat.succ_eq_add_one, Nat.add_lt_add_iff_right,
+    Nat.div_lt_iff_lt_mul (x := xn) (k := yn + 1) (y := xn) (by omega),
+    show (xn < xn * (yn + 1)) = (1 * xn < (yn + 1) * xn) by rw [Nat.one_mul, Nat.mul_comm]]
+  apply Nat.mul_lt_mul_of_lt_of_le (a := 1) (b := xn) (c := yn + 1) (d := xn) (by omega) (by omega) (by omega)
+
+theorem self_le_ediv_of_neg_of_pos (x y : Int) (hx' : x ≤ 0) (hy' : 0 ≤ y) :
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean:2456]: updated

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 60]
```diff
@@ -2415,6 +2415,65 @@ theorem dvd_iff_bmod_eq_zero {a : Nat} {b : Int} : (a : Int) ∣ b ↔ b.bmod a
...
+  rw [Int.div_def]
+  unfold Int.ediv
+  obtain ⟨xn, hx⟩ := Int.eq_ofNat_of_zero_le (a := x) (by omega)
+  obtain ⟨yn, hy⟩ := Int.eq_ofNat_of_zero_le (a := y) (by omega)
+  simp only [hx, hy, Int.ofNat_eq_coe, Int.ofNat_lt]
+  exact Int.ofNat_zero_le (xn / yn)
+
+/-- Needs a stricter bound on x, in fact (-1)/(-2) = 1 and 1 < (-1).natAbs is not true. -/
+theorem ediv_lt_natAbs_self_of_lt_neg_one_of_lt_neg_one (x y : Int) (hx' : x < -1) (hy' : y < -1) :
+    x / y < x.natAbs := by
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean:2444]: fixed implicit argoments and hypotheses names in this and all the nearby theorems.

All the other cases are covered already in this PR. This theorem is spiritually the `x nonpos y nonpos` one, however, it is only true that  `x / y < x.natAbs` with the stricter condition of `y < -1` and not simply nonpos. I made the comment (hopefully?) clearer.

Moreover, this theorem is used in the proof of `BitVec.toInt_ediv_toInt_lt_of_nonpos_of_lt_neg_one`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 61]
```diff
@@ -5140,6 +5243,24 @@ theorem sub_le_sub_iff_le {x y z : BitVec w} (hxz : z ≤ x) (hyz : z ≤ y) :
     BitVec.toNat_sub_of_le (by rw [BitVec.le_def]; omega)]
   omega
 
+theorem sdiv_neg_one {w : Nat} {x : BitVec w} :
+    x.toInt / -1 = - x.toInt := by
+  rcases w with _|w
+  · simp [of_length_zero]
+  · simp [toInt_allOnes]
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:5250]: I wonder if this should be an `Int` theorem of the form `forall (x : Int), x / -1 = -x`. Let's do this in a subsequent PR even if we want to :)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 62]
```diff
@@ -5140,6 +5243,24 @@ theorem sub_le_sub_iff_le {x y z : BitVec w} (hxz : z ≤ x) (hyz : z ≤ y) :
...
+
+theorem sdivOverflow_eq_negOverflow_of_allOnes {w : Nat} {x y : BitVec w} (hy : y = allOnes w) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:5252]:
```suggestion
theorem sdivOverflow_eq_negOverflow_of_eq_allOnes {w : Nat} {x y : BitVec w} (hy : y = allOnes w) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 63]
```diff
@@ -4143,6 +4143,109 @@ theorem sdiv_self {x : BitVec w} :
...
+
+/-- Given the definition of ediv/emod for signed integer division (https://dl.acm.org/doi/pdf/10.1145/128861.128862)
+  we have that for two integers x and y: x/y = q ↔ x.ediv y = q ↔ r = x.emod y
+  and in particular: -1/y = q ↔ -1.ediv y = q ↔ r = -1.emod y.
+  from which it follows that:
+  (-1)/0 = 0
+  (-1)/y = -1 when 0 < y
+  (-1)/(-5) = 1 when y < 0
+-/
+theorem toInt_ediv_toInt_eq_of_neg_one {w : Nat} {y : BitVec w} (hw : 1 < w) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:4202]:
```suggestion
theorem neg_one_toInt_ediv_toInt_eq_of_lt_one {w : Nat} {y : BitVec w} (hw : 1 < w) :
```

I believe the suggestion should be the theorem name, to say that we have `-1 / y`, and that the hypothesis is `(1 < w)`.

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 64]
```diff
@@ -2894,6 +2894,73 @@ theorem bmod_eq_self_of_le_mul_two {x : Int} {y : Nat} (hle : -y ≤ x * 2) (hlt
     x.bmod y = x :=
   bmod_eq_of_le_mul_two hle hlt
 
+/- ### ediv -/
+
+theorem ediv_lt_self_of_pos_of_one_ne_one {x y : Int} (hx : 0 < x) (hy : y ≠ 1) :
```
Comment (bollu) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2899]:
```suggestion
theorem ediv_lt_self_of_pos_of_ne_one {x y : Int} (hx : 0 < x) (hy : y ≠ 1) :
```

I think it should be `of_ne_one` since we are saying that `(hy : y ≠ 1)`, not `1 ≠ 1`.

**Review by bollu — APPROVED** [review]
LGTM, thanks for the heroic work :) This was definitely a long one, since we had to build tons of theory. I've added naming convention nits that I believe should be merged, but other than that, the proofs look good to go from my side.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 61 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:5250]: sure, happy to do that in a subsequent PR.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 63 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:4202]: done

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 64 above)
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean]: thanks for the catch!! it is indeed, fixed now.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 65]
```diff
@@ -4143,6 +4143,109 @@ theorem sdiv_self {x : BitVec w} :
...
+  · by_cases 0 < y.toInt
+    · simp [Int.sign_eq_one_of_pos (a := y.toInt) (by omega), Int.neg_one_ediv]
+      omega
+    · by_cases hy : y.toInt = 0
+      · simp [hy]
+      · simp [Int.sign_eq_neg_one_of_neg (a := y.toInt) (by omega), Int.neg_one_ediv]
+        omega
+
+/-- Non-overflowing signed division bounds when numerator is nonpos, denumerator is less than -1. -/
+theorem toInt_ediv_toInt_lt_of_nonpos_of_lt_neg_one {w : Nat} {x y : BitVec w} (hx : x.toInt ≤ 0) (hy : y.toInt < - 1)  :
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4216]:
```suggestion
theorem toInt_ediv_toInt_lt_of_nonpos_of_lt_neg_one {w : Nat} {x y : BitVec w} (hx : x.toInt ≤ 0) (hy : y.toInt < -1)  :
```

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 66]
```diff
@@ -2894,6 +2894,73 @@ theorem bmod_eq_self_of_le_mul_two {x : Int} {y : Nat} (hle : -y ≤ x * 2) (hlt
...
+  · simp [hx', zero_ediv]
+  · by_cases hy : y = 0
+    · simp [hy]; omega
+    · simp only [ge_iff_le, Int.le_ediv_iff_mul_le (c := y) (a := x) (b := x) (by omega),
+        show (x * y ≤ x) = (x * y ≤ x * 1) by rw [Int.mul_one], Int.mul_one]
+      apply Int.mul_le_mul_of_nonpos_left (a := x) (b := y) (c  := (1 : Int)) (by omega) (by omega)
+
+theorem neg_self_le_ediv_of_nonneg_of_nonpos (x y : Int) (hx : 0 ≤ x) (hy : y ≤ 0) :
+    - x ≤ x / y := by
+  by_cases hy' : y = 0
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2955]:
```suggestion
    -x ≤ x / y := by
  by_cases hy' : y = 0
```

**Comment by tobiasgrosser** [comment]
The commit message also requires an update.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 67]
```diff
@@ -1359,6 +1359,60 @@ theorem negOverflow_eq {w : Nat} (x : BitVec w) :
...
+  overflow for negation (BitVec.sdivOverflow_eq_negOverflow_of_eq_allOnes):
+  in fact, x.toInt/(allOnes w).toInt = - x.toInt, i.e.,
+  the overflow conditions are the same as negOverflow for x.
+
+  We can then reason about the signs of the operands. All these cases rely on respective
+  theorems specifying the bounds of signed division once the special cases are excluded:
+  · BitVec.toInt_ediv_toInt_lt_of_nonneg_of_nonneg when 0 < y.toInt and 0 < x.toInt
+  · BitVec.toInt_ediv_toInt_nonpos_of_nonpos_of_nonneg when 0 < y.toInt and x.toInt < 0
+  · BitVec.toInt_ediv_toInt_nonpos_of_nonneg_of_nonpos when y.toInt < 0 and 0 < x.toInt
+  · BitVec.toInt_ediv_toInt_lt_of_nonpos_of_lt_neg_one when y.toInt < -1 and x.toInt < 0
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1376]: The part of the comment after the `when` lines is outdated. Do we really need to repeat the information that is already encoded in the theorem name? Also, the code meanwhile seems relatively self-documenting. I wonder if we want to have this comment at all?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 68]
```diff
@@ -1359,6 +1359,60 @@ theorem negOverflow_eq {w : Nat} (x : BitVec w) :
...
+
+  These BitVec theorems themselves rely on numerous Int.udiv_* theorems, that carefully
+  propagate bounds for signed division for integers.
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1379]: Not sure this is relevant. If that is of interest, people can look it up, no?

Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: shortened as well

File: src/Init/Data/BitVec/Lemmas.lean [hunk 69]
```diff
@@ -5140,6 +5243,24 @@ theorem sub_le_sub_iff_le {x y z : BitVec w} (hxz : z ≤ x) (hyz : z ≤ y) :
     BitVec.toNat_sub_of_le (by rw [BitVec.le_def]; omega)]
   omega
 
+theorem sdiv_neg_one {w : Nat} {x : BitVec w} :
+    x.toInt / -1 = - x.toInt := by
+  rcases w with _|w
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:5248]:
```suggestion
    x.toInt / -1 = -x.toInt := by
  rcases w with _|w
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 70]
```diff
@@ -1359,6 +1359,60 @@ theorem negOverflow_eq {w : Nat} (x : BitVec w) :
...
+    -- the division overflows iff x = intMin (w + 1), as for negation
+    by_cases hy : y = allOnes (w + 1)
+    · simp [sdivOverflow_eq_negOverflow_of_eq_allOnes, negOverflow_eq, ← hy, beq_eq_decide_eq]
+    · -- reason about signs
+      simp only [sdivOverflow, Nat.add_one_sub_one, ge_iff_le, hy, _root_.and_false,
+          decide_false, or_eq_false_iff, decide_eq_false_iff_not, Int.not_le, Int.not_lt]
+      simp only [bool_to_prop]
+      have := BitVec.neg_two_pow_le_toInt_ediv (x := x) (y := y); simp only [Nat.add_one_sub_one] at this
+      by_cases hy' : 0 ≤ y.toInt
+      · by_cases hx : 0 ≤ x.toInt
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: flipped

File: src/Init/Data/BitVec/Bitblast.lean [hunk 71]
```diff
@@ -1359,6 +1359,60 @@ theorem negOverflow_eq {w : Nat} (x : BitVec w) :
...
+        · -- numerator is negative, denumerator is positive
+          have :=  BitVec.toInt_ediv_toInt_nonpos_of_nonpos_of_nonneg
+                (x := x) (y := y) (by omega) (by omega)
+          simp only [Nat.add_one_sub_one] at this; simp; omega
+      · by_cases hx : 0 < x.toInt
+        · -- numerator is positive, denumerator is negative
+          have := BitVec.toInt_ediv_toInt_nonpos_of_nonneg_of_nonpos
+                (x := x) (y := y) (by omega) (by omega)
+          simp only [Nat.add_one_sub_one] at this; simp; omega
+        · -- numerator and denumerator are negative
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean:1395]: this does not work

File: src/Init/Data/BitVec/Bitblast.lean [hunk 72]
```diff
@@ -1359,6 +1359,60 @@ theorem negOverflow_eq {w : Nat} (x : BitVec w) :
...
+      · by_cases hx : 0 ≤ x.toInt
+        · -- numerator and denumerator are positive
+          have := BitVec.toInt_ediv_toInt_lt_of_nonneg_of_nonneg
+                (x := x) (y := y) (by omega) (by omega)
+          simp only [Nat.add_one_sub_one] at this; simp; omega
+        · -- numerator is negative, denumerator is positive
+          have :=  BitVec.toInt_ediv_toInt_nonpos_of_nonpos_of_nonneg
+                (x := x) (y := y) (by omega) (by omega)
+          simp only [Nat.add_one_sub_one] at this; simp; omega
+      · by_cases hx : 0 < x.toInt
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: same, does not work

[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: accepted

File: src/Init/Data/BitVec/Lemmas.lean [hunk 73]
```diff
@@ -4143,6 +4143,109 @@ theorem sdiv_self {x : BitVec w} :
...
+/-- Given the definition of ediv/emod for signed integer division (https://dl.acm.org/doi/pdf/10.1145/128861.128862)
+  we have that for two integers x and y: x/y = q ↔ x.ediv y = q ↔ r = x.emod y
+  and in particular: -1/y = q ↔ -1.ediv y = q ↔ r = -1.emod y.
+  from which it follows that:
+  (-1)/0 = 0
+  (-1)/y = -1 when 0 < y
+  (-1)/(-5) = 1 when y < 0
+-/
+theorem neg_one_ediv_toInt_eq {w : Nat} {y : BitVec w} (hw : 1 < w) :
+    -1 / y.toInt = if y.toInt = 0 then 0 else if 0 < y.toInt then -1 else 1 := by
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:4203]: accepted (and golfed)

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 74]
```diff
@@ -2894,6 +2894,73 @@ theorem bmod_eq_self_of_le_mul_two {x : Int} {y : Nat} (hle : -y ≤ x * 2) (hlt
...
+theorem ediv_nonneg_of_nonneg_of_nonneg {x y : Int} (hx : 0 ≤ x) (hy : 0 ≤ y) :
+    0 ≤ x / y := by
+  rw [Int.div_def]
+  unfold Int.ediv
+  obtain ⟨xn, hx'⟩ := Int.eq_ofNat_of_zero_le (a := x) (by omega)
+  obtain ⟨yn, hy'⟩ := Int.eq_ofNat_of_zero_le (a := y) (by omega)
+  simp only [hx', hy', Int.ofNat_eq_coe, Int.ofNat_lt]
+  exact Int.ofNat_zero_le (xn / yn)
+
+
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean:2921]: done

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 75]
```diff
@@ -2894,6 +2894,73 @@ theorem bmod_eq_self_of_le_mul_two {x : Int} {y : Nat} (hle : -y ≤ x * 2) (hlt
...
+  · rw [Int.div_def]
+    unfold Int.ediv
+    obtain ⟨xn, hx'⟩ := Int.eq_ofNat_of_zero_le (a := x) (by omega)
+    obtain ⟨yn, hy'⟩ := Int.eq_ofNat_of_zero_le (a := y) (by omega)
+    simp only [hx', hy', Int.ofNat_eq_coe, Int.ofNat_lt]
+    apply Nat.div_lt_self (by omega) (by omega)
+  · have := @Int.ediv_nonpos_of_nonneg_of_nonpos x y (by omega) (by omega)
+    omega
+
+/-- Note that x < y → 0 ≤ x → 0 ≤ y → x / y = 0 -/
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean:2911]: removed the comment - I think it belonged to a previous version of the theorem

File: src/Init/Data/BitVec/Lemmas.lean [hunk 76]
```diff
@@ -5140,6 +5243,24 @@ theorem sub_le_sub_iff_le {x y z : BitVec w} (hxz : z ≤ x) (hyz : z ≤ y) :
...
+  · simp [toInt_allOnes]
+
+theorem sdivOverflow_eq_negOverflow_of_eq_allOnes {w : Nat} {x y : BitVec w} (hy : y = allOnes w) :
+    sdivOverflow x y = negOverflow x := by
+  rcases w with _|w
+  · simp [sdivOverflow, negOverflow, of_length_zero]
+  · have xle := le_two_mul_toInt (x := x); have xlt := two_mul_toInt_lt (x := x)
+    simp only [sdivOverflow, hy, toInt_allOnes, Nat.zero_lt_succ, ↓reduceIte, Int.reduceNeg,
+      Int.ediv_neg, Int.ediv_one, Nat.add_one_sub_one, ge_iff_le, Int.neg_lt_neg_iff,
+      show ¬2 ^ w < x.toInt by omega, decide_false, Bool.or_false, negOverflow]
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:5264]: fixed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 69 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:5253]: fixed

File: src/Init/Data/BitVec/Lemmas.lean [hunk 77]
```diff
@@ -4143,6 +4143,109 @@ theorem sdiv_self {x : BitVec w} :
...
+  · omega
+  · by_cases 0 < y.toInt
+    · simp [Int.sign_eq_one_of_pos (a := y.toInt) (by omega), Int.neg_one_ediv]
+      omega
+    · by_cases hy : y.toInt = 0
+      · simp [hy]
+      · simp [Int.sign_eq_neg_one_of_neg (a := y.toInt) (by omega), Int.neg_one_ediv]
+        omega
+
+/-- Non-overflowing signed division bounds when numerator is nonpos, denumerator is less than -1. -/
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:4220]: I would prefer leaving the comments. I updated them to be correct and consistent with the theorem statement, but I think it does not hurt to have them (people can just ignore them if the meaning of the theorem is trivial).

File: src/Init/Data/BitVec/Lemmas.lean [hunk 78]
```diff
@@ -4143,6 +4143,109 @@ theorem sdiv_self {x : BitVec w} :
...
+  rcases w with _|w
+  · simp [of_length_zero]
+  · by_cases hx' : x.toInt = 0
+    · simp [hx']
+    · by_cases hy' : y.toInt = 0
+      · simp [hy']
+      · have := Int.ediv_neg_of_neg_of_pos (a := x.toInt) (b := y.toInt) (by omega) (by omega)
+        simp; omega
+
+/-- Non-overflowing signed division bounds when numerator is positive, denumerator is negative. -/
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: same as above

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 79]
```diff
@@ -2894,6 +2894,71 @@ theorem bmod_eq_self_of_le_mul_two {x : Int} {y : Nat} (hle : -y ≤ x * 2) (hlt
...
+  In particular, consider the following counter examples:
+  · (-1) / (-2) = 1 and ¬ 1 < (-1).natAbs
+    (note that Int.neg_one_ediv already handles `ediv` where the numerator is -1)
+  · (-2) / (-1) = 2 and ¬ 1 < (-2).natAbs
+  To exclude these cases, we enforce stricter bounds on the values of x and y.
+-/
+theorem ediv_lt_natAbs_self_of_lt_neg_one_of_lt_neg_one {x y : Int} (hx : x < -1) (hy : y < -1) :
+    x / y < x.natAbs := by
+  rw [Int.div_def]
+  unfold Int.ediv
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2931]:
```suggestion
  simp only [Int.div_def, Int.ediv]
```

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 80]
```diff
@@ -2894,6 +2894,71 @@ theorem bmod_eq_self_of_le_mul_two {x : Int} {y : Nat} (hle : -y ≤ x * 2) (hlt
...
+
+theorem neg_self_le_ediv_of_nonneg_of_nonpos (x y : Int) (hx : 0 ≤ x) (hy : y ≤ 0) :
+    -x ≤ x / y := by
+  by_cases hy' : y = 0
+  · simp [hy']; omega
+  · obtain ⟨xn, hx''⟩ := Int.eq_ofNat_of_zero_le (a := x) (by omega)
+    obtain ⟨yn, hy''⟩ := Int.eq_negSucc_of_lt_zero (a := y) (by omega)
+    rw [Int.div_def]
+    unfold Int.ediv
+    simp only [hx'', hy'', Nat.succ_eq_add_one, Int.ofNat_eq_coe, ge_iff_le, Int.neg_le_neg_iff, Int.ofNat_le]
```
Comment (tobiasgrosser) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2959]:
```suggestion
    simp only [Int.div_def, Int.ediv, hx'', hy'', Nat.succ_eq_add_one, Int.ofNat_eq_coe, ge_iff_le, Int.neg_le_neg_iff, Int.ofNat_le]
```
?

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 81]
```diff
@@ -2894,6 +2894,71 @@ theorem bmod_eq_self_of_le_mul_two {x : Int} {y : Nat} (hle : -y ≤ x * 2) (hlt
...
+    obtain ⟨yn, hy'⟩ := Int.eq_ofNat_of_zero_le (a := y) (by omega)
+    simp only [hx', hy', Int.ofNat_eq_coe, Int.ofNat_lt]
+    apply Nat.div_lt_self (by omega) (by omega)
+  · have := @Int.ediv_nonpos_of_nonneg_of_nonpos x y (by omega) (by omega)
+    omega
+
+theorem ediv_nonneg_of_nonneg_of_nonneg {x y : Int} (hx : 0 ≤ x) (hy : 0 ≤ y) :
+    0 ≤ x / y := by
+  rw [Int.div_def]
+  unfold Int.ediv
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean:2914]: same as above

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 80 above)
Comment (luisacicolini) [reply src/Init/Data/Int/DivMod/Lemmas.lean:2959]: this breaks the proof. I can look into it and fix it if necessary, but the proof looked good already imho

File: src/Init/Data/BitVec/Bitblast.lean (hunk 71 above)
[the remark this answers is not in the document]
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean]: I pushed 0065b54160e49d19049c5766e1d7a22f813d4d29.

File: src/Init/Data/Int/DivMod/Lemmas.lean (hunk 80 above)
Comment (tobiasgrosser) [reply src/Init/Data/Int/DivMod/Lemmas.lean:2959]: Let's leave it then. :+1:

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 82]
```diff
@@ -2894,6 +2894,71 @@ theorem bmod_eq_self_of_le_mul_two {x : Int} {y : Nat} (hle : -y ≤ x * 2) (hlt
     x.bmod y = x :=
   bmod_eq_of_le_mul_two hle hlt
 
+/- ### ediv -/
+
+theorem ediv_lt_self_of_pos_of_ne_one {x y : Int} (hx : 0 < x) (hy : y ≠ 1) :
+    x / y < x := by
+  by_cases hy' : 1 < y
+  · rw [Int.div_def]
+    unfold Int.ediv
```
[the remark this answers is not in the document]
Comment (tobiasgrosser) [reply src/Init/Data/Int/DivMod/Lemmas.lean:2903]: OK, let's close this then.

**Comment by tobiasgrosser** [comment]
> These BitVec theorems themselves rely on numerous Int.udiv_* theorems, that carefully set the bounds of signed division for integers.

Should these be `Int.ediv`?

**Review by tobiasgrosser — APPROVED** [review]
I think this is good to go. Thank you, @luisacicolini for all your effort.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 83]
```diff
@@ -1359,6 +1359,42 @@ theorem negOverflow_eq {w : Nat} (x : BitVec w) :
...
+    -- the division overflows iff x = intMin (w + 1), as for negation
+    by_cases hy : y = allOnes (w + 1)
+    · simp [sdivOverflow_eq_negOverflow_of_eq_allOnes, negOverflow_eq, ← hy, beq_eq_decide_eq]
+    · -- reason about signs
+      simp only [sdivOverflow, hy, bool_to_prop]
+      have := BitVec.neg_two_pow_le_toInt_ediv (x := x) (y := y); simp only [Nat.add_one_sub_one] at this
+      by_cases hx : 0 ≤ x.toInt
+      · by_cases hy' : 0 ≤ y.toInt
+        · -- numerator and denumerator are positive
+          have := BitVec.toInt_ediv_toInt_lt_of_nonneg_of_nonneg
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1381]:
```suggestion
        · -- numerator and denominator are positive
          have := BitVec.toInt_ediv_toInt_lt_of_nonneg_of_nonneg
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 84]
```diff
@@ -1359,6 +1359,42 @@ theorem negOverflow_eq {w : Nat} (x : BitVec w) :
...
+                (x := x) (y := y) (by omega) (by omega)
+          simp only [Nat.add_one_sub_one] at this; simp; omega
+        · -- numerator is positive, denumerator is negative
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1384]:
```suggestion
        · -- numerator is positive, denominator is negative
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 85]
```diff
@@ -1359,6 +1359,42 @@ theorem negOverflow_eq {w : Nat} (x : BitVec w) :
...
+          have := BitVec.toInt_ediv_toInt_nonpos_of_nonneg_of_nonpos
+                (x := x) (y := y) (by omega) (by omega)
+          simp; omega
+      · by_cases hy' : 0 ≤ y.toInt
+        · -- numerator is negative, denumerator is positive
+          have :=  BitVec.toInt_ediv_toInt_nonpos_of_nonpos_of_nonneg
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1390]:
```suggestion
        · -- numerator is negative, denumerator is positive
          have :=  BitVec.toInt_ediv_toInt_nonpos_of_nonpos_of_nonneg
```
```suggestion
        · -- numerator is negative, denominator is nonnegative
          have :=  BitVec.toInt_ediv_toInt_nonpos_of_nonpos_of_nonneg
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 86]
```diff
@@ -1359,6 +1359,42 @@ theorem negOverflow_eq {w : Nat} (x : BitVec w) :
...
+                (x := x) (y := y) (by omega) (by omega)
+          simp; omega
+        · -- numerator and denumerator are negative
+          have := BitVec.toInt_ediv_toInt_lt_of_nonpos_of_lt_neg_one
+                (x := x) (y := y) (by omega) (by rw [← toInt_inj, toInt_allOnes] at hy; omega)
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1395]:
```suggestion
        · -- numerator and denominator are negative
          have := BitVec.toInt_ediv_toInt_lt_of_nonpos_of_lt_neg_one
                (x := x) (y := y) (by omega) (by rw [← toInt_inj, toInt_allOnes] at hy; omega)
```

File: src/Init/Data/BitVec/Bitblast.lean (hunk 85 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean:1390]: fixed

File: src/Init/Data/BitVec/Bitblast.lean (hunk 84 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean:1384]: fixed

File: src/Init/Data/BitVec/Bitblast.lean (hunk 86 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: fixed

**Review by hargoniX — CHANGES_REQUESTED** [review]
Looks generally fine :+1:, `Int` stuff someone else should probably do as per usual.

File: src/Init/Data/BitVec/Basic.lean [hunk 87]
```diff
@@ -767,6 +767,15 @@ SMT-Lib name: `bvnego`.
...
   x.toInt == - 2 ^ (w - 1)
 
+/--
+Checks whether the signed division of `x` by `y` results in overflow.
+For BitVecs `x` and `y` with nonzero width, this only happens if `x = intMin` and `y = allOnes w`.
+
+SMT-LIB name: `bvsdivo`.
+-/
+def sdivOverflow {w : Nat} (x y : BitVec w) : Bool :=
+  (x.toInt / y.toInt ≥ 2 ^ (w - 1)) || (x.toInt / y.toInt < - 2 ^ (w - 1))
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Basic.lean:777]: changed def to 
```
def sdivOverflow {w : Nat} (x y : BitVec w) : Bool :=
  (x.toInt / y.toInt ≥ 2 ^ (w - 1)) || (x.toInt / y.toInt ≤  - 2 ^ (w - 1) - 1)
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 88]
```diff
@@ -1359,6 +1359,42 @@ theorem negOverflow_eq {w : Nat} (x : BitVec w) :
...
     rw_mod_cast [Nat.mod_eq_of_lt (by simp [Nat.pow_lt_pow_succ])]
 
+/--
+  Prove that signed division x.toInt / y.toInt only overflows when x = intMin w and y = allOnes w (for 0 < w).
+-/
+theorem sdivOverflow_eq {w : Nat} (x y : BitVec w) :
+    (sdivOverflow x y) = (decide (0 < w) && (x = intMin w) && (y = allOnes w)) := by
+  rcases w with _|w
+  · simp [sdivOverflow, of_length_zero]
+  · have yle := le_two_mul_toInt (x := y); have ylt := two_mul_toInt_lt (x := y)
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean:1369]: done

File: src/Init/Data/BitVec/Bitblast.lean [hunk 89]
```diff
@@ -1359,6 +1359,42 @@ theorem negOverflow_eq {w : Nat} (x : BitVec w) :
...
+    -- the division overflows iff x = intMin (w + 1), as for negation
+    by_cases hy : y = allOnes (w + 1)
+    · simp [sdivOverflow_eq_negOverflow_of_eq_allOnes, negOverflow_eq, ← hy, beq_eq_decide_eq]
+    · -- reason about signs
+      simp only [sdivOverflow, hy, bool_to_prop]
+      have := BitVec.neg_two_pow_le_toInt_ediv (x := x) (y := y); simp only [Nat.add_one_sub_one] at this
+      by_cases hx : 0 ≤ x.toInt
+      · by_cases hy' : 0 ≤ y.toInt
+        · -- numerator and denominator are nonneg
+          have := BitVec.toInt_ediv_toInt_lt_of_nonneg_of_nonneg
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean:1381]: it does not - I removed the comments about signs, since the theorems' names and docstrings should be clear anyways

[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean:1381]: (same for `BitVec.Lemmas`)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 90]
```diff
@@ -4143,6 +4143,112 @@ theorem sdiv_self {x : BitVec w} :
...
+theorem toInt_ediv_toInt_lt_of_nonneg_of_nonneg {w : Nat} {x y : BitVec w} (hx : 0 ≤ x.toInt) (hy : 0 ≤ y.toInt) :
+    x.toInt / y.toInt < 2 ^ (w - 1) := by
+  rcases w with _|w
+  · simp [of_length_zero]
+  · -- if y.toInt = 1 and 0 < x.toInt, then x.toInt / 1 = x.toInt < 2 ^ w
+    have xle := le_two_mul_toInt (x := x); have xlt := two_mul_toInt_lt (x := x)
+    by_cases hy' : y.toInt = 1
+    · simp [hy', Int.ediv_one]; omega
+    · by_cases hx' : x.toInt = 0
+      · simp [hx']
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:4166]: fixed

File: src/Init/Data/BitVec/Lemmas.lean [hunk 91]
```diff
@@ -4143,6 +4143,112 @@ theorem sdiv_self {x : BitVec w} :
...
+  (-1)/0 = 0
+  (-1)/y = -1 when 0 < y
+  (-1)/(-5) = 1 when y < 0
+-/
+theorem neg_one_ediv_toInt_eq {w : Nat} {y : BitVec w} :
+    (-1) / y.toInt = if y.toInt = 0 then 0 else if 0 < y.toInt then -1 else 1 := by
+  rcases w with _|_|w
+  · simp [of_length_zero]
+  · have := eq_zero_or_eq_one y
+    cases this
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:4207]: fixed

File: src/Init/Data/BitVec/Bitblast.lean [hunk 92]
```diff
@@ -1359,6 +1359,42 @@ theorem negOverflow_eq {w : Nat} (x : BitVec w) :
     simp only [toInt_intMin, Nat.add_one_sub_one, Int.ofNat_emod, Int.neg_inj]
     rw_mod_cast [Nat.mod_eq_of_lt (by simp [Nat.pow_lt_pow_succ])]
 
+/--
+  Prove that signed division x.toInt / y.toInt only overflows when x = intMin w and y = allOnes w (for 0 < w).
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean:1363]: done

File: src/Init/Data/BitVec/Lemmas.lean [hunk 93]
```diff
@@ -4143,6 +4143,112 @@ theorem sdiv_self {x : BitVec w} :
...
+      simp; omega
+
+/-- Given the definition of ediv/emod for signed integer division (https://dl.acm.org/doi/pdf/10.1145/128861.128862)
+  we have that for two integers x and y: x/y = q ↔ x.ediv y = q ↔ r = x.emod y
+  and in particular: -1/y = q ↔ -1.ediv y = q ↔ r = -1.emod y.
+  from which it follows that:
+  (-1)/0 = 0
+  (-1)/y = -1 when 0 < y
+  (-1)/(-5) = 1 when y < 0
+-/
```
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: fixed

File: src/Init/Data/BitVec/Basic.lean (hunk 87 above)
[the remark this answers is not in the document]
Comment (luisacicolini) [reply src/Init/Data/BitVec/Basic.lean]: my bad, I thought the problem was changing `<` to `\le`. now changed to 
```lean4
def sdivOverflow {w : Nat} (x y : BitVec w) : Bool :=
  (2 ^ (w - 1) ≤ x.toInt / y.toInt) || (x.toInt / y.toInt ≤  - 2 ^ (w - 1) - 1)
```

[the remark this answers is not in the document]
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Basic.lean]: The right part sould remain `<`. No need to turn it into `<=` and then add a `-1`.

File: src/Init/Data/Int/DivMod/Lemmas.lean [hunk 94]
```diff
@@ -2894,6 +2894,71 @@ theorem bmod_eq_self_of_le_mul_two {x : Int} {y : Nat} (hle : -y ≤ x * 2) (hlt
...
+    omega
+
+theorem ediv_nonneg_of_nonneg_of_nonneg {x y : Int} (hx : 0 ≤ x) (hy : 0 ≤ y) :
+    0 ≤ x / y := by
+  rw [Int.div_def, ]
+  unfold Int.ediv
+  obtain ⟨xn, hx'⟩ := Int.eq_ofNat_of_zero_le (a := x) (by omega)
+  obtain ⟨yn, hy'⟩ := Int.eq_ofNat_of_zero_le (a := y) (by omega)
+  simp only [hx', hy', Int.ofNat_eq_coe, Int.ofNat_lt]
+  exact Int.ofNat_zero_le (xn / yn)
```
Comment (TwoFX) [inline src/Init/Data/Int/DivMod/Lemmas.lean:2918]: Please try to avoid `Int.div_dev` and unfolding `Int.ediv`. This should never be necessary. For example, this proof can just be
```suggestion
  obtain ⟨xn, rfl⟩ := Int.eq_ofNat_of_zero_le (a := x) (by omega)
  obtain ⟨yn, rfl⟩ := Int.eq_ofNat_of_zero_le (a := y) (by omega)
  rw [← Int.ofNat_ediv]
  exact Int.ofNat_zero_le (xn / yn)
```
Similar changes are possible in the lemmas above and below.

**Comment by luisacicolini** [comment]
thanks @TwoFX, I avoided unfolding and updated the proofs :)

**Review by TwoFX — COMMENTED** [review]
`Int` lemmas look good to me, thanks!
